2150-11-04 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2150-11-4**] 01:07 AM
 MIDLINE - START [**2150-11-4**] 01:09 AM
 DIALYSIS CATHETER - START [**2150-11-4**] 01:10 AM
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-11-4**] 02:00 AM
   Meropenem - [**2150-11-4**] 03:00 AM
   Acyclovir - [**2150-11-4**] 03:30 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-4**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 93 (90 - 97) bpm
   BP: 106/48(59) {102/43(59) - 130/54(69)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
             599 mL
   PO:
             TF:
   IVF:
   599 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: Trach [**Year (4 digits) **]
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: NAD, lying in bed, +trach, obese, foul odor from room, awake,
   alert, poor hygiene.
   HEENT:PERRLA, EOMI, anicteric, MMM
   neck: +trach in place, c/d/I, supple, unable to assess for JVP.
   chest:b/l +poor respiratory effort, basilar crackles. R.sided HD
   catheter c/d/i
   heart:s1s2 distant heart sounds, unable to appreciate m/r/g.
   abd: +bs, obese, soft, NT, ND
   ext: s/p R.BKA, wound at stub. L.leg dusky, dark in color, dry skin,
   faint pulses. R.midline c/d/i. 3+body edema.
   back: +stage 4 sacral decub, with multiple surrounding decubs of
   various stages. +evidence of zoster infection/dermatomal vesicular
   rash.
   neuro:unable to assess as pt unable to speak, not answering questions
   appropriately.
   Labs / Radiology
   479 K/uL
   8.8 g/dL
   201 mg/dL
   3.4 mg/dL
   25 mEq/L
   4.7 mEq/L
   55 mg/dL
   98 mEq/L
   141 mEq/L
   29.2 %
   19.5 K/uL
        [image002.jpg]
                            [**2150-11-4**]  01:50 AM
   WBC
   19.5
   Hct
   29.2
   Plt
   479
   Cr
   3.4
   TropT
   0.46
   Glucose
   201
   Other labs: CK / CKMB / Troponin-T:104/3/0.46, ALT / AST:43/31, Alk
   Phos / T Bili:193/0.2, Amylase / Lipase:22/23, Lactic Acid:2.1 mmol/L,
   Albumin:2.6 g/dL, LDH:138 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   75 y.o male, chronic trach, s/p mult admissions, ESRD, CAD, afib, DM2,
   plasma cell dyscrasia who presents with hypotension.
   .
   #Hypotension: Pt found to be hypotensive in HD today. Apparently, was
   mentating. However, SBP found to be 50/30's in ED. Etiologies include
   hypovolemia secondary HD session or blood loss. Other possibilities
   include infection/sepsis (white count/lactate). Pt has has many
   hospitalizations, colonizations and antibiotic course for various
   PNA's, UTIs as well as many sources including trach, HD lines.. Other
   possibilies include pnx, PE (unlikely given supratherapeutic INR),
   tamponade, medication effect, or other cardiac event. However, most
   likely scenerio is infection/sepsis. Given, pt's multiple infections in
   the past with MRSA, actinobacter, serratia, multiple resistance
   patterns and infections to PCN/sulfa will have to cover with broad
   spectum antibiotics.
   -Vanco, meropenem, cipro/flagyl
   -acyclovir for ?zoster.
   -bcx, ucx, sputum cx
   -trend fever curve/wbc count
   -IVF for CVP 8-12
   -levophed for map >65
   .
   # Sepsis: Meets SIRS criteria with WBC to 13.2, HR>100 and BP 50/33.
   Lactate of 4 now decreased to 2.8 with IVF and pressors. Likely source
   is PNA although urine, wound and lines are potential sources.
   - Femoral Central Venous Line placed in E.D. Unable to transduce
   however will need to fluid resuscitate on clinical exam.
   - IV fluid boluses and Levophed if needed to maintain MAP > 65. Pt on
   HD so cannot assess [**Last Name (LF) 949**], [**First Name3 (LF) 178**] need to follow neuro exams and serial
   lactates.
   - Broad spectrum antibiotics
   - Follow-up blood, urine and sputum cultures
   -wound cx
   - Trend WBC count fever curve.
   -ID consult in am.
   .
   #Chronic Respiratory Failure: Known hx of hypercarbic/hypoxic
   respiratory failure now s/p trachostomy from early [**2149**]. Prior BAL
   without endobronchial lesions or tracheobronchomalacia. Pt has had
   MRSA, pseudomonal, actinobacter, serratia PNA.
   -broad spectrum abx.
   -trach [**Last Name (LF) **], [**First Name3 (LF) 178**] ventilate if needed
   -ABGs.
   # ESRD: On HD, [**1-17**] to diabetic nephropathy.
   - Continued renagel.
   -will notify renal to plan for HD.
   .
   #acid/base: Pt with "normal bicarb" but a gap of 17. Explanations
   include lactic acidosis, renal failure. However, one would not expect
   normal bicarb. Possible that pt, has a metabolic alkalosis or chronic
   resp acidosis with compensatory met alkalosis.
   -IVF
   -abg's.
   -HD session
   -abx.
   -repeat CMP in am.
   .
   # CAD: TTE [**3-24**] (EF 50% to 55%). Dilated Left Ventricular Cavity. Pt
   with trop 0.53 which is higher than prior. Likely is enzyme leak in the
   setting of demand due to hypotension during HD. Also in the setting of
   renal failure. INR supratherapeutic.
   -continue statin, BB when BP tolerates.
   -ROMI
   -repeat EKG in am.
   -consider echo.
   .
   # Atrial Fibrillation: Pt with INR of 3.3.
   - Continue metoprolol for rate control when BP can tolerate.
   - Cont coumadin to maintain INR [**1-18**], will hold PM dose.
   .
   # Type II DM: Pt with BS of 205 on admission.
   - Cont ISS and Lantus.
   .
   # R BKA with Sacral and Leg ulcers: No signs of active infection
   - Continued current wound care
   -wound consult.
   -consider vascular c/s for L.leg.
   .
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known Retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating
   lymphoid tissue with quiescent germinal centers.
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-11-4**] 01:07 AM
   Midline - [**2150-11-4**] 01:09 AM
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-05 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Confirmed code status with family: FULL. Also informed family of pt
   acute level of illness. They seem to understand this
   - Consulted Renal: want to check cx from HD line as well. Likely HD on
   Thurs. with Epo. Cont sevelamer
   - Consulted vascular surgery: no action needed on left foot at this
   time
   - Consulted plastics: debrided sacral decub. Wound care also involved
   - Consulted ID: Ordered MRI pelvis for ?evidence of osteo [**1-17**] sacral
   decub. Pt on Dapto, [**Last Name (un) 430**], cipro, acyclovir, vanco po. Would peel off
   cipro first. Sent stool, sputum cultures.
   - Consulted nutrition- tube feeds started
   - Gave 4 u FFP then placed IJ and A line. D/C'd fem line and midline
   (IV must d/c midline and was paged)
   - Attempting to wean pt off pressors - was on levophed and vasopressin
   during the day. Goal MAP >60, CVP 8-10. Also giving IVF boluses to
   maintain pressure
   - Trending lactate: 4, 2.8, 1.5, 2.1, 1.1, 1.3, 0.8
   - Left leg plain films negative for osteo
   - CE stable.
   - Cortisol 26.9
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-4**] 03:00 AM
   Acyclovir - [**2150-11-4**] 03:30 AM
   Metronidazole - [**2150-11-4**] 07:49 AM
   Ciprofloxacin - [**2150-11-5**] 01:55 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-11-4**] 03:48 PM
   Morphine Sulfate - [**2150-11-4**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-5**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 84 (82 - 107) bpm
   BP: 99/43(62) {66/31(50) - 134/48(337)} mmHg
   RR: 26 (17 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 9 (8 - 10)mmHg
   Total In:
                                                                  7,385 mL
                                                                    901 mL
   PO:
   TF:
                                                                      5 mL
                                                                     98 mL
   IVF:
                                                                  6,069 mL
                                                                    783 mL
   Blood products:
                                                                  1,131 mL
   Total out:
                                                                    260 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,125 mL
                                                                    901 mL
   Respiratory support
   O2 Delivery Device: Trach [**Year (4 digits) **]
   SpO2: 99%
   ABG: 7.36/40/92.[**Numeric Identifier 1176**]/22/-2
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated, No(t) Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t) Diastolic),
   Very distant heart sounds. II/VI systolic murmurs
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed), Strong radial pulse when cuff pressure is 70-75 systolic
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : rare anteriorally, No(t) Bronchial: , No(t) Wheezes : ,
   Diminished: left base, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Left: Severe venous stasis changes, No(t) Cyanosis, No(t)
   Clubbing, right BKA
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: papular, bullous eruption on back, No(t) Jaundice,
   Sacral decubitus
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   290 K/uL
   6.2 g/dL
   178 mg/dL
   3.7 mg/dL
   22 mEq/L
   4.8 mEq/L
   60 mg/dL
   104 mEq/L
   142 mEq/L
   20.1 %
   9.7 K/uL
        [image002.jpg]
                            [**2150-11-4**]  01:50 AM
                            [**2150-11-4**]  05:25 AM
                            [**2150-11-4**]  11:03 AM
                            [**2150-11-4**]  03:40 PM
                            [**2150-11-4**]  09:52 PM
                            [**2150-11-5**]  04:01 AM
                            [**2150-11-5**]  04:31 AM
   WBC
   19.5
   20.5
   13.9
   9.7
   Hct
   29.2
   28.2
   24.1
   20.1
   Plt
   [**Telephone/Fax (3) 6568**]90
   Cr
   3.4
   3.8
   3.7
   3.7
   TropT
   0.46
   0.49
   TCO2
   27
   23
   24
   Glucose
   [**Telephone/Fax (3) 6569**]78
   Other labs: PT / PTT / INR:25.8/42.7/2.6, CK / CKMB /
   Troponin-T:95/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:80.8 %, Band:0.0 %,
   Lymph:14.4 %, Mono:4.4 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.4 g/dL, LDH:96 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:6.3
   mg/dL
   MICRO:
   [**2150-11-4**] 9:58 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2150-11-4**]):
         [**10-10**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
   BCx: NGTD
   Catheter Tip: Pending
   UCx: NGTD
   Wound Culure: Pending
   Stool: Pending
   VRE: Swab Pending
   CXR: [**11-4**] (prelim) left IJ line projects at the expected location of
   left brachiocephalic vein.
   no pTX. the remainder of the study is unchanged.
   CXR: ([**11-4**] 6am) Moderate pulmonary edema has worsened, accompanied by
   increasing small amount of right pleural effusion. Left lower lobe
   atelectasis persists. Heart is  shifted to the left of midline,
   probably not grossly enlarged, but mediastinal
   veins are more distended today. Feeding tube passes below the diaphragm
   and out of view. Dual-channel right-sided supraclavicular dialysis
   catheter ends in the right atrium. Tracheostomy tube in place. No
   pneumothorax.
   Foot X-Ray: There has been resection of the phalanges of  the fourth
   and fifth digits as well as a substantial portion of the fifth
   metatarsal in a patient with vascular calcification consistent with
   diabetes. Specifically, no evidence of erosion of the calcaneus, though
   there is evidence of an adjacent ulcer. Small posterior calcaneal spur.
   Vascular: ([**11-4**])
concern for gangrene secondary to insufficiency is
   low
   Plastics: ([**11-4**]):  1) No debridement at this time due to INR/PTT. If
   patient is reversed, will consider debridement.
   2) Recommend Dakins solution wet to dry dressings [**Hospital1 **].  3) Nutrition
   consult  4) Cont Vit C and zinc 5) Kinair bed
   6) logroll q2hrs
   Wound: ([**11-4**]): Commercial wound cleanser or normal saline to
   irrigate/cleanse all open wounds.  Pat the tissue dry with dry gauze.
   Perianal tissue: apply Critic-Aid Clear, reapply after each 3^rd
   cleansing. Perianal ulcer: apply Aquacel Ag to wound bed, change daily.
   Left trochanter ulcers: apply DuoDerm wound gel, place Allevyn foam
   dressing. Change q 3 days.  Sacrum/Coccyx Ulcer: per plastic order,
   moisten Kerlix with Dakin solution per plastic, check dilution %, cover
   with Soft
   Sorb dressings, no-sting barrier to peri wound skin, secure with
   Medipore tape. Change [**Hospital1 **].
   Infectious Disease:
   1.Agree with Meropenem to cover broad gram negative and ESBL coverage.
   2.Can continue Ciprofloxacin while weaning off pressors and cultures
   pending. If afebrile and stable off pressors would
   discontinue double gram negative coverage.
   3. D/C Linezolid and start Daptomycin at 6 mg/kg q 48 hours (after HD
   if possible). Daptomycin with better soft tissue and
   bone penetration and would prefer given possibility of sacral decubitus
   ulcer/osteo as source.
   3.Would obtain stool cultures and start empiric PO vanc for c. diff.
   4.Would send sputum for gram stain and culture
   5.Follow up urine, blood and wound culture. Draw blood cultures off HD
   line
   6.D/C midline. Would favor change HD line if repeat positive blood
   cultures as per [**Hospital1 630**] has not been changed for "months"
   with interval documentation of GNR (klebsiella) bacteremia.  D/C
   femoral line as soon as possible.
   7. Would image pelvis with CT/MRI if possible to look for
   osteomyelitis given depth of decubitus ulcer.
   Assessment and Plan
   75 y.o male, chronic trach, s/p mult admissions, ESRD, CAD, afib, DM2,
   plasma cell dyscrasia who presents with hypotension.
   .
   #Hypotension: Etiology hypovolemia [**1-17**] over ultrfiltration vs Sepsis
   (Line, Wounds, Urine, PNA, Stool).
   - Careful IVF resuscitation given hx of dCHF
   - Attempt to wean Leophed, consider transition to Vasopressin. Changing
   parameters to address SBP and not MAPs
   - Following serial Lactate and Neuro exam
   - Replacement of CVL once Coagulopathy reversed
   - Broad spectrum ABx with Culture Data
   - ID Consult given hx of many resistant organisms
   - Surveillance BCx
   - Straight Cath for Urine Sample
   - Wound Cultures from wound team
   - Trend WBC
   - Stool Cultures
   .
   #Chronic Respiratory Failure: S/P trachostomy from early [**2149**]. Now on
   Trach [**Year (4 digits) **] 40%. Unclear if underlying PNA.
   - broad spectrum abx.
   - trach [**Last Name (LF) **], [**First Name3 (LF) 178**] ventilate if needed
   - ABGs.
   - f/u Cultures
   .
   # ESRD: On HD, [**1-17**] to diabetic nephropathy. Gap Metabolic Acidosis
   although pt also has elevated lactate.
   - Continued renagel.
   - Notify Renal
   .
   # CAD: Pt with trop 0.53. Likely demand ischemia in setting of ARF
   - Trend Trops
   -continue statin, BB when BP tolerates.
   -ROMI
   -repeat EKG in am.
   -consider echo.
   .
   # Atrial Fibrillation: Pt with INR of 3.3.
   - Holding Coumadin pending line placement
   - Holding B-blocker in setting of hypotension
   - Will start Heparin
   .
   # Type II DM:
   - Cont ISS and Lantus.
   .
   # R BKA with Sacral and Leg ulcers:
   - Wound consult.
   - Vascular c/s for L.leg.
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-4**] 11:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-05 12:04:00 Physician Attending Progress Note
Chief Complaint: Hypotension, COPD, anemia, chronic renal failure, la
   Note: note from earlier this morning was lost by computer system. This
   represents evaluation at approximately 11 AM
   HPI:
    CVP has been about [**6-23**]. Patient given volume through the night with
   decrease in pressor requirements although patient still needs
   vasopressin and levophed.
   Mental status is improving.
   Hct has dropped with extensive volume resuscitation.
   24 Hour Events:
 STOOL CULTURE - At [**2150-11-4**] 10:13 AM
 WOUND CULTURE - At [**2150-11-4**] 10:14 AM
 SPUTUM CULTURE - At [**2150-11-4**] 11:39 AM
 URINE CULTURE - At [**2150-11-4**] 11:39 AM
 BLOOD CULTURED - At [**2150-11-4**] 03:44 PM
 ARTERIAL LINE - START [**2150-11-4**] 03:44 PM
 MULTI LUMEN - START [**2150-11-4**] 06:30 PM
 MIDLINE - STOP [**2150-11-5**] 12:25 AM
 MULTI LUMEN - STOP [**2150-11-5**] 12:45 AM
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-4**] 03:00 AM
   Acyclovir - [**2150-11-4**] 03:30 AM
   Metronidazole - [**2150-11-4**] 07:49 AM
   Ciprofloxacin - [**2150-11-5**] 01:55 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2150-11-4**] 08:30 PM
   Famotidine (Pepcid) - [**2150-11-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-11-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-5**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 89 (82 - 96) bpm
   BP: 106/34(59) {66/28(47) - 134/48(337)} mmHg
   RR: 23 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
   CVP: 9 (7 - 10)mmHg
   Total In:
                                                                  7,385 mL
                                                                  2,633 mL
   PO:
   TF:
                                                                      5 mL
                                                                    271 mL
   IVF:
                                                                  6,069 mL
                                                                  1,897 mL
   Blood products:
                                                                  1,131 mL
                                                                    375 mL
   Total out:
                                                                    260 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,125 mL
                                                                  2,633 mL
   Respiratory support
   O2 Delivery Device: Trach [**Year (4 digits) **]
   SpO2: 95%
   ABG: 7.36/40/92.[**Numeric Identifier 1176**]/22/-2
   PaO2 / FiO2: 186
   Physical Examination
   Patient is alert and responsive. No respiratory distress. Tracheostomy
   tube in place. Chest with a few scattered rales anteriorally and
   laterally. Heart sounds soft. No gallop or murmur. Abdomen with active
   bowel sounds; non tender. Right leg with BKA. Warm. Left leg with
   bluish color; cooler than right, 1+ edema.
   Labs / Radiology
   6.2 g/dL
   290 K/uL
   178 mg/dL
   3.7 mg/dL
   22 mEq/L
   4.8 mEq/L
   60 mg/dL
   104 mEq/L
   142 mEq/L
   20.1 %
   9.7 K/uL
        [image002.jpg]
                            [**2150-11-4**]  01:50 AM
                            [**2150-11-4**]  05:25 AM
                            [**2150-11-4**]  11:03 AM
                            [**2150-11-4**]  03:40 PM
                            [**2150-11-4**]  09:52 PM
                            [**2150-11-5**]  04:01 AM
                            [**2150-11-5**]  04:31 AM
   WBC
   19.5
   20.5
   13.9
   9.7
   Hct
   29.2
   28.2
   24.1
   20.1
   Plt
   [**Telephone/Fax (3) 6568**]90
   Cr
   3.4
   3.8
   3.7
   3.7
   TropT
   0.46
   0.49
   TCO2
   27
   23
   24
   Glucose
   [**Telephone/Fax (3) 6569**]78
   Other labs: PT / PTT / INR:25.8/42.7/2.6, CK / CKMB /
   Troponin-T:95/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:80.8 %, Band:0.0 %,
   Lymph:14.4 %, Mono:4.4 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.4 g/dL, LDH:96 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:6.3
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   Patient
s BP is slightly improved with volume resuscitation. Patient
   will get blood transfusions today, which should help to increase
   central pressures and, hopefully, the cardiac output and oxygen
   delivery. Will try to wean levophed through the day. If levophed is
   stopped, would continue vasopressin for another 24 hours.
   Hct down without obvious bleeding. Transfusion as above.
   Broad spectrum antibiotics continue. Awaiting culture results.
   Patient has anion gap acidosis, likely from renal failure. No acute
   need for dialysis today.
   ICU Care
   Nutrition: Tube feeding
   Nutren 2.0 (Full) - [**2150-11-4**] 11:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: Not applicable.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30 mins, critical care

2150-11-06 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sputum cx with GNR (others NGTD)
   - Per ID, d/c'd acyclovir, transfused 2 U with appropriate bump -
   continue
   dapto/[**Last Name (un) 430**]/cipro/PO Vanc for now
   - Per Plastics - Debridement, wet to dry dressings, optimize nutrition,
   Air matress
   - Dapto D#2, [**Last Name (un) **] D#3, Cipro D#3, Vanco PO D#3
   - Pt on Levophed .04-.06 overnight, Vasopressin 2.4 overnight.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2150-11-4**] 03:30 AM
   Metronidazole - [**2150-11-4**] 07:49 AM
   Daptomycin - [**2150-11-5**] 12:00 PM
   Ciprofloxacin - [**2150-11-6**] 02:12 AM
   Meropenem - [**2150-11-6**] 04:12 AM
   Vancomycin - [**2150-11-6**] 05:38 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-11-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-11-5**] 11:41 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: L sided hip pain. Pt otherwises nods when asked if
   his pain is under control.
   Flowsheet Data as of  [**2150-11-6**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 80 (75 - 90) bpm
   BP: 101/32(56) {78/28(47) - 112/49(65)} mmHg
   RR: 30 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 63 Inch
    CVP: 12 (-2 - 15)mmHg
   Total In:
                                                                  3,794 mL
                                                                    612 mL
   PO:
   TF:
                                                                    631 mL
                                                                    189 mL
   IVF:
                                                                  2,174 mL
                                                                    424 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,794 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach [**Year (4 digits) **]
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic,Tracheostomy
   CardiovascularVery distant heart sounds. II/VI systolic murmurs
   Respiratory / Chest: Rare crackles anteriorally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left: Improved severe venous stasis changes
   Skin:  Warm, Rash: papular, bullous eruption on back, Sacral decubitus
   packed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, month:
   Labs / Radiology
   335 K/uL
   7.9 g/dL
   162 mg/dL
   4.2 mg/dL
   19 mEq/L
   4.7 mEq/L
   66 mg/dL
   101 mEq/L
   138 mEq/L
   25.6 %
   14.0 K/uL
        [image002.jpg]
                            [**2150-11-4**]  01:50 AM
                            [**2150-11-4**]  05:25 AM
                            [**2150-11-4**]  11:03 AM
                            [**2150-11-4**]  03:40 PM
                            [**2150-11-4**]  09:52 PM
                            [**2150-11-5**]  04:01 AM
                            [**2150-11-5**]  04:31 AM
                            [**2150-11-5**]  03:48 PM
                            [**2150-11-6**]  04:01 AM
   WBC
   19.5
   20.5
   13.9
   9.7
   14.0
   Hct
   29.2
   28.2
   24.1
   20.1
   25.8
   25.6
   Plt
   [**Telephone/Fax (3) 6568**]90
   335
   Cr
   3.4
   3.8
   3.7
   3.7
   4.1
   4.2
   TropT
   0.46
   0.49
   TCO2
   27
   23
   24
   Glucose
   [**Telephone/Fax (3) 6569**]78
   224
   162
   Other labs: PT / PTT / INR:23.1/40.2/2.2, CK / CKMB /
   Troponin-T:34/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:80.8 %, Band:0.0 %,
   Lymph:14.4 %, Mono:4.4 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.4 g/dL, LDH:96 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:6.5
   mg/dL
   Assessment and Plan
   75 y.o male, chronic trach, s/p mult admissions, ESRD, CAD, afib, DM2,
   plasma cell dyscrasia who presents with hypotension.
   .
   # Hypotension: Etiology hypovolemia [**1-17**] over ultrfiltration vs Sepsis
   (Line, Wounds, Urine, PNA, Stool). Now 12.5L up since admission in unit
   (plus 700cc in ED). Pt now on Levo .04 and Vasopressin. CVP 7-12
   depending on position.
   - Attempt to wean Leophed, and Vasopressin.
   - Following serial Lactate (now WNL) and Neuro exam to determine
   perfusion.
   - Cont broad spectrum ABx with Culture Data per ID (Dapto, Cipro, [**Last Name (un) **],
   PO Vanc)
   - F/u  BCx
   - f/u Urine Sample
   - Wound Cultures from wound team
   - Trend WBC
   - Stool Cultures
   .
   # Chronic Respiratory Failure: S/P trachostomy from early [**2149**]. Now on
   Trach [**Year (4 digits) **] 50%. Stable
   - broad spectrum abx.
   - trach [**Last Name (LF) **], [**First Name3 (LF) 178**] ventilate if needed
   - ABGs.
   - f/u Cultures
   .
   # ESRD: No change in MS, no uremia, no hypokalemia. Normal Lactate.
   Will consider CVVH.
   - Continued renagel.
   - HD today vs tomorrow per renal
   .
   # CAD: Stable troponins.
   -continue statin, BB when BP tolerates.
   -consider echo following sepsis resolution.
   .
   # Atrial Fibrillation: Pt with INR of 2.3.
   - Start Heparin gtt
   - Holding B-blocker in setting of hypotension
   .
   # Type II DM: 250-300s overnight
   - Cont ISS and Lantus.
   .
   # R BKA with Sacral and Leg ulcers
   - f/u Wound recs.
   - f/u Vascular recs
   - f/u  Derm Recs
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-5**] 07:29 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT [**Last Name (LF) 6594**], [**First Name3 (LF) 178**] start Heparin gtt today
   Stress ulcer: H2
   Communication:  Comments: Family, pt
   [**Name (NI) 66**] status: Full code
   Disposition: [**Hospital Unit Name 44**]

2150-11-06 11:38:00 Physician Attending Progress Note
Chief Complaint: Hypotension, fever, chronic renal failure, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Levophed at slightly lower dose this AM. CVP has ranged from [**6-27**].
   Oxygenation has remained good on trach mask.
   Hct stable.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2150-11-4**] 03:30 AM
   Metronidazole - [**2150-11-4**] 07:49 AM
   Daptomycin - [**2150-11-5**] 12:00 PM
   Ciprofloxacin - [**2150-11-6**] 02:12 AM
   Meropenem - [**2150-11-6**] 04:12 AM
   Vancomycin - [**2150-11-6**] 05:38 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-11-6**] 08:00 AM
   Other medications:
   Famotidine, renagel, Vasopressin, atrovent, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-6**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 86 (75 - 89) bpm
   BP: 98/40(60) {78/32(55) - 117/49(330)} mmHg
   RR: 27 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 63 Inch
   CVP: 7 (-2 - 15)mmHg
   Total In:
                                                                  3,794 mL
                                                                    940 mL
   PO:
   TF:
                                                                    631 mL
                                                                    341 mL
   IVF:
                                                                  2,174 mL
                                                                    529 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,794 mL
                                                                    940 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: BKA, Left: 1+ edema, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   335 K/uL
   162 mg/dL
   4.2 mg/dL
   19 mEq/L
   4.7 mEq/L
   66 mg/dL
   101 mEq/L
   138 mEq/L
   25.6 %
   14.0 K/uL
        [image002.jpg]
                            [**2150-11-4**]  01:50 AM
                            [**2150-11-4**]  05:25 AM
                            [**2150-11-4**]  11:03 AM
                            [**2150-11-4**]  03:40 PM
                            [**2150-11-4**]  09:52 PM
                            [**2150-11-5**]  04:01 AM
                            [**2150-11-5**]  04:31 AM
                            [**2150-11-5**]  03:48 PM
                            [**2150-11-6**]  04:01 AM
   WBC
   19.5
   20.5
   13.9
   9.7
   14.0
   Hct
   29.2
   28.2
   24.1
   20.1
   25.8
   25.6
   Plt
   [**Telephone/Fax (3) 6568**]90
   335
   Cr
   3.4
   3.8
   3.7
   3.7
   4.1
   4.2
   TropT
   0.46
   0.49
   TCO2
   27
   23
   24
   Glucose
   [**Telephone/Fax (3) 6569**]78
   224
   162
   Other labs: PT / PTT / INR:23.1/40.2/2.2, CK / CKMB /
   Troponin-T:34/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:80.8 %, Band:0.0 %,
   Lymph:14.4 %, Mono:4.4 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.4 g/dL, LDH:96 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:6.5
   mg/dL
   Imaging: CXR: bilateral alveolar infiltrates and probable bilateral
   effusions
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   COPD
   ANEMIA
   Patient's hemodynamics improved. We reduced dose of levophed on rounds
   without adverse events. Use patient's mental status as marker of
   adequate perfusion. Try to remove levophed today. Maintain vasopressin
   an additional 24 hours.
   Continue antibiotics.
   O2 sat down slightly. CXR suggests that there may be increased lung
   water. Getting closer to need for dialysis.
   Hct stable. Not at transfusion threshold now.
   ICU Care
   Nutrition: tube feeds
   Nutren 2.0 (Full) - [**2150-11-5**] 07:29 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2150-11-07 08:10:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   - Sputum Culture (+) ACINETOBACTER BAUMANNII
   - Followed by ID, Renal, Plastics
   - Changed Pressor parameters in attempt to wean down requirements
   - Started on Heparin gtt for AF
   - Insulin Scale adjusted
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-5**] 12:00 PM
   Vancomycin - [**2150-11-6**] 12:00 PM
   Ciprofloxacin - [**2150-11-7**] 02:17 AM
   Meropenem - [**2150-11-7**] 04:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, Daytime somnolence
   Flowsheet Data as of  [**2150-11-7**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 94 (82 - 100) bpm
   BP: 109/94(100) {83/32(52) - 117/194(345)} mmHg
   RR: 29 (19 - 34) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.2 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 7 (6 - 361)mmHg
   Total In:
                                                                  2,105 mL
                                                                    824 mL
   PO:
   TF:
                                                                    721 mL
                                                                    241 mL
   IVF:
                                                                  1,314 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,955 mL
                                                                    824 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, Rash: very easy bruising
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   300 K/uL
   8.0 g/dL
   171 mg/dL
   4.8 mg/dL
   20 mEq/L
   6.9 mEq/L
   78 mg/dL
   106 mEq/L
   138 mEq/L
   25.5 %
   14.0 K/uL
        [image002.jpg]
                            [**2150-11-4**]  05:25 AM
                            [**2150-11-4**]  11:03 AM
                            [**2150-11-4**]  03:40 PM
                            [**2150-11-4**]  09:52 PM
                            [**2150-11-5**]  04:01 AM
                            [**2150-11-5**]  04:31 AM
                            [**2150-11-5**]  03:48 PM
                            [**2150-11-6**]  04:01 AM
                            [**2150-11-6**]  04:49 PM
                            [**2150-11-7**]  05:00 AM
   WBC
   20.5
   13.9
   9.7
   14.0
   Hct
   28.2
   24.1
   20.1
   25.8
   25.6
   24.9
   25.5
   Plt
   [**Telephone/Fax (3) 6603**]35
   300
   Cr
   3.8
   3.7
   3.7
   4.1
   4.2
   4.6
   4.8
   TropT
   0.49
   TCO2
   27
   23
   24
   Glucose
   152
   123
   178
   [**Telephone/Fax (3) 6604**]
   171
   Other labs: PT / PTT / INR:18.6/120.3/1.7, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:80.8 %, Band:0.0 %,
   Lymph:14.4 %, Mono:4.4 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.4 g/dL, LDH:96 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:7.1
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male, chronic trach, s/p mult admissions mostly for various
   resistant infections, ESRD, CAD, afib, DM2, plasma cell dyscrasia who
   presents with hypotension.
   .
   # Hypotension: Etiology most likely  Sepsis (Line, Wounds, Urine, PNA,
   Stool). Now 16L  up since admission in unit (plus 700cc in ED). Pt now
   on Levo (dose varying during the day) and Vasopressin. CVP 7-8 today.
   - Attempt to wean Leophed, and Vasopressin- s/p 1L fluid boluses today-
   unlikely will be able to wean as now on CVVH.
   - Following serial Lactate now increased to 1.8
   - Cont broad spectrum ABx with Culture Data per ID (Dapto, Cipro, [**Last Name (un) **],
   PO Vanc)
   - F/u  blood,  Urine, stool and wound cultures- acinetobacter from
   sputum likely a contaminant or colonizer thus not being treated for
   this infection at this time.
   - Trend WBC
   .
   # Chronic Respiratory Failure: S/P trachostomy from early [**2149**]. Earlier
   today with change in MS [**First Name (Titles) **] [**Last Name (Titles) **] resp effort as well as metabolic on
   resp acidosis, pt started on a vent for the first time this admission.
   - broad spectrum abx.
   - cont ventilator
   - ABGs.
   - f/u Cultures
   .
   # ESRD: Pt with decr in MS today. Lactate rising. Tenuous BP on 2
   pressors but overall fluid overloaded. Per renal, started CVVH today.
   - Cont renagel.
   - monitor labs this evening on CVVH
   .
   # CAD: Stable troponins.
   -continue statin, BB when BP tolerates.
   -consider echo following sepsis resolution.
   .
   # Atrial Fibrillation: On Heparin gtt with PTT 42-120 today
   - Cont Heparin gtt
   - Holding B-blocker in setting of hypotension
   .
   # Type II DM: 200s today
   - Cont ISS and Lantus.
   .
   # R BKA with Sacral and Leg ulcers
   - f/u Wound recs.
   - f/u Vascular recs
   - f/u  Derm Recs
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-7**] 04:42 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-11-08 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Started CVVH- not taking off volume, just keeping I=O
   -Ventilated pt this am after ABG 7.18/58/70/23 and pt no longer as
   interactive. Not answering questions as of approx 9am.
   -Informed family that CVVH and Vent are temporizing and that infection
   does not seem to be getting better at this time. Family still wants pt
   to be full code
   -Per ID, cont Ceftaz, po Vanco, [**Last Name (un) 430**], cipro, dapto
   -Attempting to wean pressors- on Levo and Vasopressin with goal CVP 10
   -Lactate trending up during day from 0.8 to 1.2
   -Gave 1L fluid bolus prior to starting CVVH
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-11-6**] 12:00 PM
   Ciprofloxacin - [**2150-11-7**] 02:17 AM
   Meropenem - [**2150-11-7**] 04:00 AM
   Daptomycin - [**2150-11-7**] 12:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,750 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-8**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.6
   HR: 80 (70 - 99) bpm
   BP: 106/39(64) {84/36(55) - 133/77(356)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.2 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 13 (6 - 361)mmHg
   Total In:
                                                                  3,251 mL
                                                                  1,561 mL
   PO:
   TF:
                                                                    723 mL
                                                                    243 mL
   IVF:
                                                                  2,388 mL
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                    787 mL
                                                                  1,553 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,464 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: VOL/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.40/37/84.[**Numeric Identifier 1625**]/21/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   7.4 g/dL
   232
   3.3 mg/dL
   21 mEq/L
   4.4 mEq/L
   59 mg/dL
   101 mEq/L
   135 mEq/L
   24.2 %
   7.7 K/uL
        [image002.jpg]
                            [**2150-11-7**]  11:04 AM
                            [**2150-11-7**]  12:53 PM
                            [**2150-11-7**]  04:00 PM
                            [**2150-11-7**]  04:01 PM
                            [**2150-11-7**]  10:15 PM
                            [**2150-11-7**]  10:25 PM
                            [**2150-11-8**]  04:25 AM
                            [**2150-11-8**]  04:35 AM
                            [**2150-11-8**]  06:00 AM
                            [**2150-11-8**]  06:34 AM
   WBC
   7.7
   Hct
   24.2
   Plt
   244
   Cr
   5.2
   3.3
   TCO2
   23
   19
   19
   24
   24
   24
   Glucose
   169
   132
   204
   232
   Other labs: PT / PTT / INR:17.5/51.2/1.6, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:79.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.1 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:96 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male, chronic trach, s/p mult admissions mostly for various
   resistant infections, ESRD, CAD, afib, DM2, plasma cell dyscrasia who
   presents with hypotension.
   .
   # Hypotension: Etiology most likely  Sepsis (Line, Wounds, Urine, PNA,
   Stool). Now 16L  up since admission in unit (plus 700cc in ED). Pt now
   on Levo (dose varying during the day) and Vasopressin. CVP 7-8 today.
   - Attempt to wean Leophed, and Vasopressin- s/p 1L fluid boluses today-
   unlikely will be able to wean as now on CVVH.
   - Following serial Lactate now increased to 1.8
   - Cont broad spectrum ABx with Culture Data per ID (Dapto, Cipro, [**Last Name (un) **],
   PO Vanc)
   - F/u  blood,  Urine, stool and wound cultures- acinetobacter from
   sputum likely a contaminant or colonizer thus not being treated for
   this infection at this time.
   - Trend WBC
   .
   # Chronic Respiratory Failure: S/P trachostomy from early [**2149**]. Earlier
   today with change in MS [**First Name (Titles) **] [**Last Name (Titles) **] resp effort as well as metabolic on
   resp acidosis, pt started on a vent for the first time this admission.
   - broad spectrum abx.
   - cont ventilator
   - ABGs.
   - f/u Cultures
   .
   # ESRD: Pt with decr in MS today. Lactate rising. Tenuous BP on 2
   pressors but overall fluid overloaded. Per renal, started CVVH today.
   - Cont renagel.
   - monitor labs this evening on CVVH
   .
   # CAD: Stable troponins.
   -continue statin, BB when BP tolerates.
   -consider echo following sepsis resolution.
   .
   # Atrial Fibrillation: On Heparin gtt with PTT 42-120 today
   - Cont Heparin gtt
   - Holding B-blocker in setting of hypotension
   .
   # Type II DM: 200s today
   - Cont ISS and Lantus.
   .
   # R BKA with Sacral and Leg ulcers
   - f/u Wound recs.
   - f/u Vascular recs
   - f/u  Derm Recs
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-7**] 09:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-09 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MS much improved on vent and CVVH
   - Attempted family mtg, but unable to come in
   - Patient otherwise very stable
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-11-6**] 12:00 PM
   Daptomycin - [**2150-11-7**] 12:00 PM
   Ciprofloxacin - [**2150-11-9**] 02:08 AM
   Meropenem - [**2150-11-9**] 04:23 AM
   Infusions:
   Heparin Sodium - 1,850 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-11-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-9**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 84 (74 - 108) bpm
   BP: 107/41(65) {87/31(48) - 130/54(77)} mmHg
   RR: 26 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.2 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 30 (8 - 272)mmHg
   Total In:
                                                                  5,060 mL
                                                                  1,760 mL
   PO:
   TF:
                                                                    722 mL
                                                                    193 mL
   IVF:
                                                                  4,188 mL
                                                                  1,537 mL
   Blood products:
   Total out:
                                                                  4,983 mL
                                                                    401 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                  1,360 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 80 (0 - 350) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: 7.38/43/102/23/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Gen: on trach vent, Alert, responding appropriately to ?
   CV: rrr no M/R/G
   Pulm: equal breath sounds bilat, some decreased breath sounds at base
   Abd: non-tender, BS +
   Extr: R BKA with small wound, L food with heel ulcer.
   Labs / Radiology
   244 K/uL
   7.6 g/dL
   208
   2.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   35 mg/dL
   100 mEq/L
   133 mEq/L
   24.6 %
   7.7 K/uL
        [image002.jpg]
                            [**2150-11-8**]  09:17 AM
                            [**2150-11-8**]  10:17 AM
                            [**2150-11-8**]  03:39 PM
                            [**2150-11-8**]  03:41 PM
                            [**2150-11-8**]  04:10 PM
                            [**2150-11-8**]  10:00 PM
                            [**2150-11-9**]  12:00 AM
                            [**2150-11-9**]  04:35 AM
                            [**2150-11-9**]  05:19 AM
                            [**2150-11-9**]  06:00 AM
   WBC
   7.7
   Hct
   24.8
   24.6
   Plt
   244
   Cr
   2.7
   2.0
   TCO2
   25
   25
   26
   26
   Glucose
   124
   118
   104
   132
   145
   208
   Other labs: PT / PTT / INR:17.5/62.4/1.6, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:79.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.1 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:96 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   75 y.o male, chronic trach, s/p mult admissions mostly for various
   resistant infections, ESRD, CAD, afib, DM2, plasma cell dyscrasia who
   presents with hypotension.
   .
   # Hypotension: Etiology most likely  Sepsis (Line, Wounds, Urine, PNA,
   Stool). Now 16L  up since admission in unit (plus 700cc in ED). Pt now
   off pressors.
   - continue Vasopressin- s/p 1L fluid boluses today- unlikely will be
   able to wean as now on CVVH.
   - Cont broad spectrum ABx with Culture Data per ID (Dapto, Cipro, [**Last Name (un) **],
   PO Vanc)
redose based on CrCl of 30
   - F/u  blood,  Urine, stool and wound cultures- acinetobacter from
   sputum likely a contaminant or colonizer thus not being treated for
   this infection at this time.
   - Trend WBC
   .
   # Chronic Respiratory Failure: S/P trachostomy from early [**2149**].
   Acidosis and MS improved after pt started on a vent.
   - broad spectrum abx.
   - cont ventilator
   - ABGs.
   - Switch nebs to MDIs
   - f/u Cultures
   .
   # ESRD: Pt with decr in MS today. Lactate rising. Tenuous BP on 2
   pressors but overall fluid overloaded. Per renal, started CVVH today.
   - Dose antibiotics for CrCl of 30
   - Cont renagel.
   - monitor labs this evening on CVVH
   .
   # CAD: Stable troponins.
   -continue statin, BB when BP tolerates.
   -consider echo following sepsis resolution.
   .
   # Atrial Fibrillation: On Heparin gtt with PTT 42-120 today
   - Cont Heparin gtt
   - Holding B-blocker in setting of hypotension
   .
   # Type II DM: 200s today
   - Cont ISS and Lantus.
   .
   # R BKA with Sacral and Leg ulcers
   - f/u Wound recs.
   - f/u Vascular recs
   - f/u  Derm Recs
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-9**] 02:29 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2150-11-09 11:19:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 year old male with multiple medical problems admitted with
   sepsis/septic shock of unclear source.
   24 Hour Events:
   Overnight, mental status slightly improved.  CVVH is continued. Remains
   slightly vasopressor-dependent.
                          History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-11-6**] 12:00 PM
   Daptomycin - [**2150-11-7**] 12:00 PM
   Ciprofloxacin - [**2150-11-9**] 02:08 AM
   Meropenem - [**2150-11-9**] 04:23 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-9**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 83 (75 - 108) bpm
   BP: 83/25(43) {83/25(43) - 130/53(77)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118.2 kg (admission): 103 kg
   Height: 63 Inch
   CVP: 8 (8 - 272)mmHg
   Total In:
                                                                  5,060 mL
                                                                  2,437 mL
   PO:
   TF:
                                                                    722 mL
                                                                    330 mL
   IVF:
                                                                  4,188 mL
                                                                  2,017 mL
   Blood products:
   Total out:
                                                                  4,983 mL
                                                                  2,574 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 490 (0 - 490) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/39/119/25/2
   Ve: 10.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Overweight / Obese
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic:no focal neuron findings
   Labs / Radiology
   7.6 g/dL
   244 K/uL
   208
   2.0 mg/dL
   25 mEq/L
   3.8 mEq/L
   35 mg/dL
   100 mEq/L
   133 mEq/L
   24.6 %
   7.7 K/uL
        [image002.jpg]
                            [**2150-11-8**]  10:17 AM
                            [**2150-11-8**]  03:39 PM
                            [**2150-11-8**]  03:41 PM
                            [**2150-11-8**]  04:10 PM
                            [**2150-11-8**]  10:00 PM
                            [**2150-11-9**]  12:00 AM
                            [**2150-11-9**]  04:35 AM
                            [**2150-11-9**]  05:19 AM
                            [**2150-11-9**]  06:00 AM
                            [**2150-11-9**]  10:04 AM
   WBC
   7.7
   Hct
   24.8
   24.6
   Plt
   244
   Cr
   2.7
   2.0
   TCO2
   25
   25
   26
   26
   27
   Glucose
   118
   104
   132
   145
   208
   Other labs: PT / PTT / INR:17.5/62.4/1.6, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:79.6 %, Band:0.0 %,
   Lymph:15.1 %, Mono:3.1 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:96 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   1) Septic Shock
   - Would consider changing the HD line and will discuss with
   nephrology/ID
   - continue broad-spectrum antibiotics
   -check cortisol level
   2) Respiratory Failure
   - continue mechanical ventilation
   3) Atrial Fibrillation: Heparin gtt.
   4)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-9**] 02:29 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 30 (Pt is critically Ill)

2150-11-10 07:39:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2150-11-9**] 05:25 PM
   - Vent weaned from PS 14/5 to [**4-20**] to d/c'd
   - Checked AM cortisol, [**Last Name (un) **]-Stimed, and subsequently started on stress
   dose steroids with improvement in BP, taken off pressors
   - Continued on CVVH
   - Increased Ectopy overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-11-9**] 02:08 AM
   Daptomycin - [**2150-11-9**] 12:45 PM
   Meropenem - [**2150-11-10**] 04:24 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,950 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Limited [**1-17**] trach in place- will attempt to get help
   from speech today
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2150-11-10**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 88 (70 - 109) bpm
   BP: 108/39(64) {81/25(43) - 214/188(292)} mmHg
   RR: 26 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.2 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 4 (4 - 324)mmHg
   Total In:
                                                                  4,962 mL
                                                                  1,409 mL
   PO:
   TF:
                                                                    724 mL
                                                                    223 mL
   IVF:
                                                                  3,998 mL
                                                                  1,086 mL
   Blood products:
   Total out:
                                                                  4,955 mL
                                                                  1,037 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      7 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 420 (403 - 490) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.41/37/74/26/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases - faint)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: 1+, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   234 K/uL
   7.6 g/dL
   171 mg/dL
   1.4 mg/dL
   26 mEq/L
   5.0 mEq/L
   26 mg/dL
   100 mEq/L
   133 mEq/L
   23.0 %
   8.8 K/uL
        [image002.jpg]
                            [**2150-11-9**]  04:35 AM
                            [**2150-11-9**]  05:19 AM
                            [**2150-11-9**]  06:00 AM
                            [**2150-11-9**]  10:04 AM
                            [**2150-11-9**]  04:24 PM
                            [**2150-11-9**]  04:41 PM
                            [**2150-11-9**]  09:34 PM
                            [**2150-11-9**]  09:57 PM
                            [**2150-11-10**]  04:51 AM
                            [**2150-11-10**]  05:02 AM
   WBC
   7.7
   8.8
   Hct
   24.6
   23.0
   Plt
   244
   234
   Cr
   2.0
   1.7
   1.6
   1.4
   TCO2
   26
   27
   28
   25
   24
   Glucose
   145
   208
   109
   187
   171
   Other labs: PT / PTT / INR:15.9/81.6/1.4, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:96 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male, chronic trach, s/p mult admissions mostly for various
   resistant infections, ESRD, CAD, afib, DM2, plasma cell dyscrasia who
   presents with hypotension.
   .
   # Hypotension: Etiology most likely Sepsis (Line, Wounds, Urine, PNA,
   Stool).  Still on sepsis dose of  Vasopressin as of this am but trying
   to taper to keep Mentation at present level- answering questions,
   oriented x2.  Pt with baseline cortisol 15 which rose to 27 yesterday
   after [**Last Name (un) 45**] stim test. CVVH keeping I=O with H2O up >16L  up since
   admission.
   - Continue Vasopressin with attempts to wean, continue CVVH.
   - Cont broad spectrum ABx with Culture Data per ID (Dapto,  [**Last Name (un) **], PO
   Vanc)
   - D/w renal reguarding potential replacement of dialysis line- if pt
   unable to be weaned from pressors, would like to change line.
   - F/u  blood,  Urine, stool and wound cultures
   - Trend WBC
   .
   # Chronic Respiratory Failure: Successfully weaned from vent yesterday
   - Cont broad spectrum abx.
   - f/u Cultures
   .
   # ESRD: On CVVH (Initiated on [**11-7**]).
   - Cont renagel.
   - Close monitoring of electrolytes and repletion while on CVVH.
   # CAD: Stable troponins.  TTE yesterday with
mild symmetric LVH is
   present, left ventricular cavity size is smaller and overall left
   ventricular systolic function has improved. The degree of mitral
   regurgitation has increased slightly. Moderate pulmonary artery
   systolic hypertension can be seen on the current study
   - Continue statin, BB when BP tolerates.
   .
   # Atrial Fibrillation: On Heparin gtt with PTT 61-92 today
   - Cont Heparin gtt
   - Holding B-blocker in setting of hypotension
   .
   # Type II DM: 109-208 today
   - Cont ISS and Lantus.
   .
   # R BKA with Sacral and Leg ulcers: Stable
   - f/u Wound recs.
   - f/u  Derm Recs
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-9**] 07:02 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   I have seen and examined the patient, reviewed and agree with the
   resident
s assessment and plan as described above with emphasis on the
   following:
   75 year old male with chronic respiratory failure, atrial fibrillation,
   ESRD who presented with fever and hypotension.  Overnight, continues on
   vasopressin but no other new problems or complaints.
   On exam, 36, HR 108, BP 106/70, RR 16 (on AC) Sat 100% on Fio2 .4.
   Gen: Obese, mechanical ventilation, no acute distress
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Obese, soft NT ND
   Ext: +1 edema
   A:
   1)       Hypotension: Likely secondary to sepsis with line as potential
   source though no cultures positive at this time.  Also, has significant
   decub ulceration.  In addition, baseline cortisol inappropriately low
   for clinical condition (vasopressor-dependence).
   Plan: Discuss line removal with ID/renal
     - Stress dose steroids for possible relative adrenal insufficiency
     - continue broad-spectrum antibiotics
   2)       Acute on chronic respiratory failure
   - continue mechanical ventilation
   3)       ESRD
   4)       Atrial Fibrillation
   Time Spent: 35 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2150-11-14**] 11:01 PM ------

2150-11-11 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2150-11-10**] 03:00 PM
   Patient c/o gas and "acid-like" feeling
   -Had to put back on vent in early afternoon [**1-17**] somnolence, incr CO2
   with acidemia on ABG. Once stable on vent, mentation returned to nl.
   -Weaned off pressors by noon
   -Per speech- pt unable to use trach valve- gets too dyspneic
   -Added fentanyl 25-50 IV Q 4 hrs PRN for pain
   -Transfused 1uPRBCS- bumped 23-23.8
   -Per renal, still would not like to d/c HD line. Plan was to change if
   pt needed to go back on pressors
   -Per ID- continue to chk weekly cultures. Cont dapto/[**Last Name (un) 430**]/po vanco
   -Per renal, if BP tolerates, will start to take off fluid with CVVH
   -Plastics recs- daikins [**Hospital1 **] x1 wk then wet to dry saline dressings.
   Minimally debrided sacral ulcer once again today
   -Iron studies c/w ACD
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-11-9**] 02:08 AM
   Daptomycin - [**2150-11-9**] 12:45 PM
   Meropenem - [**2150-11-10**] 04:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2150-11-10**] 08:30 AM
   Fentanyl - [**2150-11-10**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-11**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 93 (68 - 97) bpm
   BP: 110/41(66) {90/31(52) - 139/45(77)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.2 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 11 (-1 - 14)mmHg
   Total In:
                                                                  4,538 mL
                                                                  1,098 mL
   PO:
   TF:
                                                                    721 mL
                                                                    210 mL
   IVF:
                                                                  3,247 mL
                                                                    828 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  5,167 mL
                                                                    467 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -629 mL
                                                                    631 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 532 (370 - 583) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.44/40/107/26/2
   Ve: 7.1 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: Irregularly Irregular rhythm, normal rate, no
   appreciable MRG
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Diminished), right BKA with warm stump, small eschar on stump
   ulceration; 3-4 cm left foot ulcer with eschar
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Obese, epigastric discomfort
   with palpation
   Extremities: Right: Trace, Left: Absent, roght bka, left leg warm with
   pulse as noted although eccymotic below knee with toenail clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   235 K/uL
   7.9 g/dL
   2
   1.2 mg/dL
   26 mEq/L
   4.1 mEq/L
   26 mg/dL
   98 mEq/L
   133 mEq/L
   24.8 %
   10.9 K/uL
        [image002.jpg]
                            [**2150-11-10**]  05:02 AM
                            [**2150-11-10**]  10:31 AM
                            [**2150-11-10**]  02:23 PM
                            [**2150-11-10**]  03:59 PM
                            [**2150-11-10**]  04:30 PM
                            [**2150-11-10**]  10:25 PM
                            [**2150-11-11**]  12:00 AM
                            [**2150-11-11**]  04:38 AM
                            [**2150-11-11**]  04:41 AM
                            [**2150-11-11**]  05:00 AM
   WBC
   10.9
   Hct
   23.8
   25.1
   24.8
   Plt
   235
   Cr
   1.1
   1.2
   TCO2
   24
   29
   30
   28
   29
   28
   Glucose
   142
   180
   208
   207
   2
   Other labs: PT / PTT / INR:15.1/99.4/1.3, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:96 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions mostly for various
   resistant infections, severe coxxygeal decubiti, ESRD, CAD, afib, DM2,
   plasma cell dyscrasia who presented for hypotension c/w sepsis syndrome
   now on CVVH with anemia s/p coxxygeal debridement most recently on
   [**11-10**].
   .
   # Nausea: On famotidine
   - zofran, elevate HOB, hold tube feeds to assess for resolution
   - frequent suctioning to assess for aspiration
   - check EKG if persists
   - consider switching to PPI
   .
   # Hypotension:  Etiology most likely Sepsis (Line, Wounds, Urine, PNA,
   Stool) although patient also with low Hct on Heparin with coxxygeal
   decub which continues to leak serosanguinous fluid.  [**Last Name (un) **] stim test
   15-->27. CVVH keeping I=O with H2O up >16L  up since admission.
   Seemingly improved.
   - Cont broad spectrum ABx with Culture Data per ID (Dapto,  [**Last Name (un) **], PO
   Vanc)
   - D/w renal reguarding potential replacement of dialysis line- if pt
   unable to be weaned from pressors, would like to change line.
   - F/u  blood,  Urine, stool and wound cultures
   - Trend WBC
   - start midodrine 2.5 [**Hospital1 **] as per renal
   .
   # Chronic Respiratory Failure: Slowly being weaned from vent support w
   RSBI suggesting ok to be on trach collar but with hypercarbia upon
   attempt.
   - Cont broad spectrum abx.
   - f/u Cultures
   - attempt trach collar today
   .
   # R BKA with Sacral and Leg ulcers: No appreciable improvement. Sacrum
   s/p debridement by plastics. Vasular has seen.
   - f/u Wound recs
   - f/u  Derm Recs
   - 1 more week of Dakins [**Hospital1 **] and then wet to dry dressings as per
   plastics
   - consider debridement/imaging of left heel ulcer: r/o osteo
   .
   # ESRD: On CVVH (Initiated on [**11-7**]). LOS 16L+.
   - Cont renagel.
   - Close monitoring of electrolytes and repletion while on CVVH.
   - attempt to run - if possible
   .
   # CAD: Stable troponins.
   - Continue statin, BB when BP tolerates.
   .
   # Atrial Fibrillation: On Heparin gtt. Rate currently controlled
   without beta-blockade.
   - Cont Heparin gtt
   - Holding B-blocker in setting of recent hypotension
   .
   # Type II DM: up to low 200s
   - Cont ISS and Lantus.
   - trend --- if increasing, consider titrating up later today
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-10**] 06:59 PM 30 mL/hour
   Glycemic Control:  SSI, glargine
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-11-11 12:06:00 Physician Attending Progress Note
Chief Complaint: Septic Shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, blood pressure remained stable and no need for
   vasopressors.  No new complaints.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2150-11-10**] 03:00 PM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-11-9**] 02:08 AM
   Daptomycin - [**2150-11-9**] 12:45 PM
   Meropenem - [**2150-11-10**] 04:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-11**] 08:34 AM
   Other medications:
   Med List reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-11**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 74 (68 - 98) bpm
   BP: 101/37(57) {90/31(52) - 139/45(77)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.8 kg (admission): 103 kg
   Height: 63 Inch
   CVP: 3 (-1 - 14)mmHg
   Total In:
                                                                  4,538 mL
                                                                  1,473 mL
   PO:
   TF:
                                                                    721 mL
                                                                    185 mL
   IVF:
                                                                  3,247 mL
                                                                  1,168 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  5,167 mL
                                                                  1,616 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -629 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 786 (370 - 786) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.38/44/160/25/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General Appearance: Overweight / Obese, trach/vent
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Obese
   Skin:  warm
   Neurologic: Follows simple commands, Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   235 K/uL
   135 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   26 mg/dL
   98 mEq/L
   132 mEq/L
   24.8 %
   10.9 K/uL
        [image002.jpg]
                            [**2150-11-10**]  10:31 AM
                            [**2150-11-10**]  02:23 PM
                            [**2150-11-10**]  03:59 PM
                            [**2150-11-10**]  04:30 PM
                            [**2150-11-10**]  10:25 PM
                            [**2150-11-11**]  12:00 AM
                            [**2150-11-11**]  04:38 AM
                            [**2150-11-11**]  04:41 AM
                            [**2150-11-11**]  09:22 AM
                            [**2150-11-11**]  10:01 AM
   WBC
   10.9
   Hct
   23.8
   25.1
   24.8
   Plt
   235
   Cr
   1.1
   1.2
   TCO2
   29
   30
   28
   29
   28
   27
   Glucose
   142
   180
   208
   207
   135
   Other labs: PT / PTT / INR:15.1/85.3/1.3, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:96 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   1) Septic Shock: improved blood pressures and has remained off
   vasopressors for approximately 48 hours.  Improvement was temporily
   related to the introduction of steroids for ? adrenal insufficiency
   component of shock.
   - HD catheter site has worsening reddness at site and will discuss
   removal of cath with nephrology
   Plan:
   - Continue broad-spectrum antibiotics
   2) Acute on Chronic Respiratory Failure:
   - trach shield today
   3) Relatively Adrenal insufficient: blood pressure improved so will now
   begin taper of steroids rapidly
   4) Abdominal pain/distention: KUB
   5) ESRD: Now that BP is improved, will attempt to get fluid off today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-11-12 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CVVH with 3.3 L out after midodrine started and albumin given
   - KUB very limited study - bowel gas appears normal but can't rule out
   pathology
   - Hydrocort decreased to 25 q6hr
   - Tube feeds held for GI discomfort - restarted and tolerating well
   with resolution of "acid" feeling in epigastrum
   - Plastics with no new recs - wound care nurse saw yesterday with new
   recs
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-11**] 12:26 PM
   Meropenem - [**2150-11-12**] 04:02 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   Other ICU medications:
   Fentanyl - [**2150-11-12**] 12:15 AM
   Other medications:
   Vancomycin PO
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Dialysis, CVVH
   Pain: [**6-23**] Severe
   Pain location: Low Back/Decub
   Flowsheet Data as of  [**2150-11-12**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 76 (65 - 91) bpm
   BP: 101/47(68) {92/32(50) - 137/96(100)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 115.8 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 7 (3 - 10)mmHg
   Total In:
                                                                  3,107 mL
                                                                    860 mL
   PO:
   TF:
                                                                    243 mL
                                                                    110 mL
   IVF:
                                                                  2,575 mL
                                                                    710 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  6,439 mL
                                                                  2,776 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,332 mL
                                                                 -1,916 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 630 (15 - 786) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.42/42/123/27/3
   Ve: 6.1 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Diminished), right popliteal pulse full
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent, right BKA, ecchymotic
   appearing lower ext, warm
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   236 K/uL
   8.4 g/dL
   131 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.8 mEq/L
   23 mg/dL
   98 mEq/L
   131 mEq/L
   25.4 %
   10.9 K/uL
        [image002.jpg]
                            [**2150-11-11**]  04:38 AM
                            [**2150-11-11**]  04:41 AM
                            [**2150-11-11**]  09:22 AM
                            [**2150-11-11**]  10:01 AM
                            [**2150-11-11**]  03:43 PM
                            [**2150-11-11**]  04:30 PM
                            [**2150-11-11**]  09:21 PM
                            [**2150-11-11**]  09:36 PM
                            [**2150-11-12**]  04:30 AM
                            [**2150-11-12**]  04:38 AM
   WBC
   10.9
   10.9
   Hct
   24.8
   25.4
   Plt
   235
   236
   Cr
   1.2
   1.2
   TCO2
   28
   27
   27
   29
   28
   Glucose
   [**Telephone/Fax (3) 6728**]05
   131
   Other labs: PT / PTT / INR:15.0/101.8/1.3, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:96 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Cultures:
   Stool [**11-4**]
 VRE
   Urine [**11-4**]
 yeast, [**11-6**] acinetobacter
   Sputum [**11-4**]
 acintobacter
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub.
   .
   # Hypotension: Improved on hydrocort, midodrine, and current abx
   regimen.
   - monitor
   - continue meropenem and daptomycin for 2 weeks with reassessment at
   that time, cont PO vanc
   - continue midodrine
   - decrease freq hydrocort dosing to q 12
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief.
   - uptitrate fentanyl dosing
 start patch at 25 with 25-50 mcg prn
   .
   # Fluid Overload/ESRD: CVVH initiated on [**11-7**]. LOS approx 13L
   positive.  -3.3 L yesterday with CVVH limited further by hypotension
   - continue to ultrafiltrate for progression toward euvolemia
 goal -2
   L today
   - discuss with renal poss conversion to HD starting in the near future
   (poss tomorrow)
   - Cont renagel
   .
   # Chronic Respiratory Failure: Weaning from vent support w RSBI
   suggesting ok to be on trach collar but with hypercarbia upon attempt.
   Likely [**1-17**] volume overload. Sputum from [**11-4**] with acinetobacter may be
   c.w chronic colonization rather than etiology of current presentation.
   - Cont broad spectrum abx.
   - continue to follow cultures
   - attempt trach collar today
   .
   # R BKA with Sacral and Leg ulcers: No appreciable improvement. Sacrum
   s/p debridement by plastics. Vasular has seen.
   - f/u Wound recs
   - 1 more week of Dakins [**Hospital1 **] and then wet to dry dressings as per
   plastics
   .
   # CAD: Stable troponins.
   - Continue statin, BB when BP tolerates.
   .
   # Atrial Fibrillation: On Heparin gtt. Rate currently controlled
   without beta-blockade.
   - Cont Heparin gtt
   - Holding B-blocker in setting of recent hypotension
   .
   # Type II DM: Largely in the one-teens.
   - Cont ISS and Lantus.
   - monitor
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-11**] 11:53 PM 30 mL/hour
   Glycemic Control:  SSI with Glargine
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
 discussing placement with CM, SW
 wound care with
   concerns re : decub ulcer prevention practices at prior residence and
   possible alternative placement

2150-11-12 11:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   history reviewed, vasculopath, chronic trach, ESKD on HD, DM
   Admitted with sepsis
   Found to have adrenal insufficiency
   24 Hour Events:
   sputum grew acinetobacter
   continues on CVVH - got 3.3 L off
   started on midodrine
   this am, complained of abdominal discomfort which resolved
   also c/o pain at decub ulcers
   hydrocort decreased
   tube feeds tolerated
   plastics input appreciated
   put on trach collar this AM
   fentanyl patch 25 mcg started this AM
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-11**], day
   Meropenem - [**2150-11-12**], day
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   Other ICU medications:
   Fentanyl - [**2150-11-12**] 08:20 AM
   Other medications:
   HC 25 mg q6h, heparin drip, tylenol, albuterol, vit c, daptomycin 750mg
   q8h, epo at HD, famotidine, ISS, midodrine, other meds per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-12**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 85 (65 - 86) bpm
   BP: 102/37(58) {73/30(44) - 137/96(100)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 109.2 kg (admission): 103 kg
   Height: 63 Inch
   CVP: 4 (3 - 8)mmHg
   Total In:
                                                                  3,107 mL
                                                                  2,190 mL
   PO:
   TF:
                                                                    243 mL
                                                                    208 mL
   IVF:
                                                                  2,575 mL
                                                                  1,901 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  6,439 mL
                                                                  3,567 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,332 mL
                                                                 -1,377 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 68 (15 - 630) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.42/42/123/27/3
   Ve: 8.3 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Obese
   Extremities: ecchymosis on left infrapatellar region, right BKA
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   236 K/uL
   131 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.8 mEq/L
   23 mg/dL
   98 mEq/L
   131 mEq/L
   25.4 %
   10.9 K/uL
        [image002.jpg]
                            [**2150-11-11**]  04:38 AM
                            [**2150-11-11**]  04:41 AM
                            [**2150-11-11**]  09:22 AM
                            [**2150-11-11**]  10:01 AM
                            [**2150-11-11**]  03:43 PM
                            [**2150-11-11**]  04:30 PM
                            [**2150-11-11**]  09:21 PM
                            [**2150-11-11**]  09:36 PM
                            [**2150-11-12**]  04:30 AM
                            [**2150-11-12**]  04:38 AM
   WBC
   10.9
   10.9
   Hct
   24.8
   25.4
   Plt
   235
   236
   Cr
   1.2
   1.2
   TCO2
   28
   27
   27
   29
   28
   Glucose
   [**Telephone/Fax (3) 6728**]05
   131
   Other labs: PT / PTT / INR:15.0/101.8/1.3, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:96 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 yr old multiple medical problems admitted with sepsis unclear origin
   but possible sacral decubs vs HD line . Currently hemodynamics more
   stable and tolerating CVVH.
   1)       septic shock
 blood pressures stable on hydrocortisone,
   midodrine. Agree with reducing HC dose. Continue with meropenem,
   daptomycin x 2 weeks. Would favor d/c
ing daptomycin sooner and
   continuing [**Last Name (un) 430**]. Will discuss with ID who
s input is appreciated.
   2)       chronic respiratory failure
 tolerating trach collar
   3)       Relative adrenal insufficiency
 wean down HC
   4)       Afib
 continue heparin IV.
   5)       Access
 erythema around HD line, observe for now. If this
   needs to be re-sited, will ask IR to do
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2150-11-11**] 11:53 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Arterial Line - [**2150-11-4**] 03:44 PM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-11-13 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CVVH with planned fluid removal- able to get~2.8 L down with good BP
   although clotted twice and therefore off since 1am - Renal aware and
   will assess for poss move toward HD
   - continues to complain of reflux; switched from famotidine to PPI
   yesterday - problem largely when his tube feeds are running at 30, does
   not complain when feeds are at 10
   - Lost A line overnight.
   - Pt stooling around flexi-seal and contaminating his sacral decub
   - Plastics debrided sacral decub this am, reported belief that wound
   would extend to bone if it could be properly debrided but currently
   holding back because of heparin gtt --- would be happy to be more
   aggressive with debridement at bedside if we call when heparin is off
   - continues to complain of pain
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-11**] 12:26 PM
   Meropenem - [**2150-11-13**] 04:30 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-13**] 01:00 AM
   Other medications:
   PO vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2150-11-13**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 84 (80 - 103) bpm
   BP: 92/43(54) {92/39(49) - 100/49(60)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 109.2 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 5 (2 - 7)mmHg
   Total In:
                                                                  3,692 mL
                                                                    625 mL
   PO:
   TF:
                                                                    483 mL
                                                                    121 mL
   IVF:
                                                                  2,959 mL
                                                                    484 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  6,533 mL
                                                                    190 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,841 mL
                                                                    435 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 68 (68 - 68) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.41/42/76.[**Numeric Identifier 128**]/27/1
   Ve: 8.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   241 K/uL
   8.0 g/dL
   111 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   26 mg/dL
   98 mEq/L
   132 mEq/L
   24.9 %
   10.5 K/uL
        [image002.jpg]
                            [**2150-11-11**]  09:36 PM
                            [**2150-11-12**]  04:30 AM
                            [**2150-11-12**]  04:38 AM
                            [**2150-11-12**]  11:07 AM
                            [**2150-11-12**]  11:13 AM
                            [**2150-11-12**]  05:25 PM
                            [**2150-11-12**]  05:40 PM
                            [**2150-11-12**]  10:41 PM
                            [**2150-11-12**]  10:58 PM
                            [**2150-11-13**]  04:01 AM
   WBC
   10.9
   10.5
   Hct
   25.4
   24.9
   Plt
   236
   241
   Cr
   1.2
   1.2
   1.2
   TCO2
   29
   28
   28
   29
   28
   Glucose
   131
   147
   159
   99
   111
   Other labs: PT / PTT / INR:15.0/77.8/1.3, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:96 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub.
   .
   # Hypotension: Improved on hydrocort, midodrine, and current abx
   regimen although still w sporadic episodes of hypotension.
   - monitor
   - continue meropenem and daptomycin for 2 weeks with reassessment at
   that time, cont PO vanc
 will check CK with tomorrows labs
   - increase midodrine to 5mg [**Hospital1 **]
   - maintain current hydrocort dosing (25mg IV q12)
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief.
   - uptitrate fentanyl dosing
 start patch at 25 with 25-50 mcg prn
   .
   # Fluid Overload/ESRD: CVVH initiated on [**11-7**]. LOS approx 13L
   positive.  -3.3 L yesterday with CVVH limited further by hypotension.
   Renal feels patient very fluid overloaded and needs aggressive
   ultrafiltration and, therefore, cont CVVH
   - continue to ultrafiltrate for progression toward euvolemia
 goal -2
   L today
   - Cont renagel
   .
   # Chronic Respiratory Failure: Weaning from vent support w RSBI
   suggesting ok to be on trach collar but with hypercarbia upon attempt.
   Likely [**1-17**] volume overload. Sputum from [**11-4**] with acinetobacter may be
   c.w chronic colonization rather than etiology of current presentation.
   Tolerated trach collar well with good gas.
   - Cont broad spectrum abx.
   - continue to follow cultures
   - continue with trach collar
   .
   # R BKA with Sacral and Leg ulcers: No appreciable improvement. Sacrum
   s/p debridement by plastics who feels process likely extends to bone
   and would therefore meet criteria for osteo if it were properly
   debrided. Vasular has seen.
   - f/u Wound recs
   - approx 5 more days of Dakins [**Hospital1 **] and then wet to dry dressings as per
   plastics
   - coordinate with plastics for heparin holiday with aggressive
   debridement of decub
   .
   # CAD: Stable troponins.
   - Continue statin, BB when BP tolerates.
   .
   # Atrial Fibrillation: On Heparin gtt. Rate currently controlled
   without beta-blockade.
   - Cont Heparin gtt
 will hold in correlation with plastics as above
   - Holding B-blocker in setting of recent hypotension
   .
   # Type II DM: Largely in the one-teens.
   - Cont ISS and Lantus.
   - monitor
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-11**] 11:53 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Patient hypotensive to low 70s during rounds. Responded well to 250cc
   bolus for a short time. Plan to transfuse 1u pRBCs for volume and low
   iron state but is requiring another bolus in the interim.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5464**] [**Last Name (NamePattern1) 5336**], MD
   on:[**2150-11-13**] 11:24 ------

2150-11-13 08:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   history reviewed, 75 yr old male vasculopath, chronic trach, ESKD on
   HD, DM
   Admitted with sepsis, likely also adrenal insufficiency
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2150-11-12**] 08:00 AM
 ARTERIAL LINE - STOP [**2150-11-13**] 03:30 AM
   Tolerated CVVH yesterday until machine clotted off
   tube feeds at 30 ml/hr, pt c/o heartburn
   Appreciate plastics
 help - debrided decub this AM
   Remains on trach collar since yesterday
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-11**] 12:26 PM - off
   Meropenem - [**2150-11-13**] 04:30 AM
   PO vanc q6h
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-13**] 07:10 AM
   Other medications:
   HC 25 mg q6h, heparin drip, tylenol, albuterol/atrovent, vit c,
   daptomycin 750mg q8h, epo at HD, protonix, ISS, midodrine, other meds
   per [**Month (only) **], fentanyl patch 25 , HC q12h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-13**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 84 (80 - 103) bpm
   BP: 92/43(54) {92/39(49) - 100/49(60)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 109.2 kg (admission): 103 kg
   Height: 63 Inch
   CVP: 5 (2 - 5)mmHg
   Total In:
                                                                  3,692 mL
                                                                    662 mL
   PO:
   TF:
                                                                    483 mL
                                                                    145 mL
   IVF:
                                                                  2,959 mL
                                                                    497 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  6,533 mL
                                                                    190 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,841 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 100%
   ABG: 7.41/42/76.[**Numeric Identifier 128**]/27/1
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: PPP
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Skin:  Warm, right BKA
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   241 K/uL
   111 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   26 mg/dL
   98 mEq/L
   132 mEq/L
   24.9 %
   10.5 K/uL
        [image002.jpg]
                            [**2150-11-11**]  09:36 PM
                            [**2150-11-12**]  04:30 AM
                            [**2150-11-12**]  04:38 AM
                            [**2150-11-12**]  11:07 AM
                            [**2150-11-12**]  11:13 AM
                            [**2150-11-12**]  05:25 PM
                            [**2150-11-12**]  05:40 PM
                            [**2150-11-12**]  10:41 PM
                            [**2150-11-12**]  10:58 PM
                            [**2150-11-13**]  04:01 AM
   WBC
   10.9
   10.5
   Hct
   25.4
   24.9
   Plt
   236
   241
   Cr
   1.2
   1.2
   1.2
   TCO2
   29
   28
   28
   29
   28
   Glucose
   131
   147
   159
   99
   111
   Other labs: PT / PTT / INR:15.0/77.8/1.3, CK / CKMB /
   Troponin-T:68/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:96 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 yr old multiple medical problems admitted with sepsis unclear origin
   but possible sacral decubs vs HD line . Currently hemodynamics more
   stable and tolerating CVVH.
   1)       septic shock
 blood pressures stable on hydrocortisone,
   midodrine. Agree with reducing HC dose. Continue with meropenem,
   daptomycin x 2 weeks. Would favor d/c
ing daptomycin sooner and
   continuing [**Last Name (un) 430**]. Will discuss with ID who
s input is appreciated.
   2)       chronic respiratory failure
 tolerating trach collar
   3)       Relative adrenal insufficiency
 wean down HC
   4)      Afib
 continue heparin IV.
   5)      Access
 erythema around HD line, will discuss with renal
   again. If this needs to be re-sited, will ask IR to help
   6)      ESKD
 appreciate Dr [**Last Name (STitle) 3006**] and renal service
s help. CVVH to
   be continued to achieve a new, lower dry weight
   The remainder of the plan as outlined in Dr. [**Last Name (STitle) 5336**]
s note.
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2150-11-11**] 11:53 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:  PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2150-11-14 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - placed back on CVVH after machine clotted as renal attending feels
   patient is 20-30L + and warrents further aggressive ultrafiltration
   - changed to citrate (need to closely monitor calcium with ca gluconate
   sliding scale replacement as per renal)
   - possible conversion to HD within next 24-48 hours
   - coordinated with plastics for aggressive debridement this am; heparin
   turned off for short time
   - will need pressors nearby when using pain meds for debridement
   - Lactulose started as stool was formed and pushing out around
   flexiseal and contaminating his wound -> looser stools have drained
   into flexiseal better
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-13**] 12:00 PM
   Meropenem - [**2150-11-14**] 03:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Fentanyl - [**2150-11-13**] 08:43 PM
   Heparin Sodium - [**2150-11-14**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-14**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 100 (82 - 102) bpm
   BP: 109/50(60) {67/25(35) - 118/56(68)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 109.2 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 3 (-2 - 5)mmHg
   Total In:
                                                                  5,034 mL
                                                                  2,170 mL
   PO:
   TF:
                                                                    651 mL
                                                                    140 mL
   IVF:
                                                                  3,764 mL
                                                                  1,959 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  5,061 mL
                                                                  2,310 mL
   Urine:
   NG:
                                                                      2 mL
   Stool:
   Drains:
   Balance:
                                                                    -27 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Gen: NAD, trached, responsive
   CV: distant HS, rrr, no m/r/g
   Pulm: equal BS bilat, CTAB
   Abd: Obese, soft, BS +
   Extr: R BKA, L with chronic venous stasis and diminished pulses. Ulcer
   on L heel
   Large decubitous ulcer on back not examined today.
   Labs / Radiology
   250 K/uL
   9.7 g/dL
   128 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.4 mEq/L
   25 mg/dL
   97 mEq/L
   138 mEq/L
   28.9 %
   14.5 K/uL
        [image002.jpg]
                            [**2150-11-12**]  11:13 AM
                            [**2150-11-12**]  05:25 PM
                            [**2150-11-12**]  05:40 PM
                            [**2150-11-12**]  10:41 PM
                            [**2150-11-12**]  10:58 PM
                            [**2150-11-13**]  04:01 AM
                            [**2150-11-13**]  10:22 AM
                            [**2150-11-13**]  05:12 PM
                            [**2150-11-13**]  10:22 PM
                            [**2150-11-14**]  04:22 AM
   WBC
   10.5
   14.5
   Hct
   24.9
   28.9
   Plt
   241
   250
   Cr
   1.2
   1.2
   1.5
   1.4
   TCO2
   28
   29
   28
   Glucose
   159
   99
   111
   131
   152
   136
   128
   Other labs: PT / PTT / INR:15.0/53.1/1.3, CK / CKMB /
   Troponin-T:32/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.2
   g/dL, LDH:96 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub.
   .
   # Hypotension: Improved on hydrocort, midodrine, and current abx
   regimen although still w sporadic episodes of hypotension.  Required
   levophed this AM for large narcotic doses during debridement by
   plastics.
   - switch levophed to vasopressin for less effect on peripheral
   vasculature.
   - continue meropenem and daptomycin until [**2150-11-27**] with reassessment at
   that time, cont PO vanc until other Abx are stopped
   - increase midodrine to 5mg [**Hospital1 **]
   - maintain current hydrocort dosing (25mg IV q12)
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief.
   - uptitrate fentanyl dosing
 patch at 25 with 25-50 mcg prn
   .
   # Fluid Overload/ESRD: CVVH initiated on [**11-7**]. LOS approx 13L
   positive.  Even yesterday with CVVH limited further by hypotension.
   Renal feels patient very fluid overloaded (20 - 30L) and needs
   aggressive ultrafiltration and, therefore, cont CVVH
   - continue to ultrafiltrate for progression toward euvolemia
 goal -2
   L today
   - repleted Phos today as level was 1.1
   .
   # Chronic Respiratory Failure: Sputum from [**11-4**] with acinetobacter may
   be c.w chronic colonization rather than etiology of current
   presentation. Tolerating trach collar with supplemental O2.
   - Cont broad spectrum abx.
   - continue to follow cultures
   - continue with trach collar
   .
   # R BKA with Sacral and Leg ulcers: No appreciable improvement. Sacrum
   s/p aggressive debridement today by plastics who feels process likely
   extends to bone and would therefore meet criteria for osteo if it were
   properly debrided. They recommend diverting colostomy in order for this
   to heal.
   - f/u Wound recs
   - Continue Dakins [**Hospital1 **] until [**11-16**] and then wet to dry dressings as per
   plastics
   - Restart heparin 1 hr after debridement.
   .
   # Atrial Fibrillation: On Heparin gtt. Rate currently controlled
   without beta-blockade.
   - Cont Heparin gtt
   - Holding B-blocker in setting of recent hypotension
   .
   # Type II DM: Largely in the one-teens.
   - Cont ISS and Lantus.
   - monitor
   .
   # CAD: Stable troponins.
   - Continue statin, BB when BP tolerates.
   .
   # Plasma Cell Dyscrasia: Appears stable
   - Continued outpatient follow up
   ICU Care
   Nutrition: Restart TF
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-11-14 11:32:00 Physician Attending Progress Note
Chief Complaint: Hypotension, chronic renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient was started back on vasopressors this AM. BP in 70's despite
   fluids. Levophed started.
   Afebrile.
   Continues on CVVH. Fluid balance even for past 24 hours. CVP remains
   low.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-13**] 12:00 PM
   Meropenem - [**2150-11-14**] 03:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2150-11-14**] 12:12 AM
   Fentanyl - [**2150-11-14**] 10:00 AM
   Other medications:
   colace, vanco (oral), ascorbic acid, zinc, heparin, albuterol,
   atrovent, epogen, insulin, fentanyl patch, protonix, midadin,
   hydrocortisone, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-14**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 89 (83 - 102) bpm
   BP: 87/44(54) {71/33(44) - 138/66(80)} mmHg
   RR: 24 (15 - 36) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 106.2 kg (admission): 103 kg
   Height: 63 Inch
   CVP: 0 (-1 - 5)mmHg
   Total In:
                                                                  5,034 mL
                                                                  3,922 mL
   PO:
   TF:
                                                                    651 mL
                                                                    140 mL
   IVF:
                                                                  3,764 mL
                                                                  3,611 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  5,061 mL
                                                                  3,591 mL
   Urine:
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    -27 mL
                                                                    335 mL
   Respiratory support
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Heart sounds very soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral chest, No(t) Crackles : , No(t)
   Bronchial: , Wheezes : Soft wheeze anteriorally, No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: BKA, Left: chronic venous stasis changes
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to fully assess with trach, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   250 K/uL
   128 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.4 mEq/L
   25 mg/dL
   97 mEq/L
   138 mEq/L
   28.9 %
   14.5 K/uL
        [image002.jpg]
                            [**2150-11-12**]  11:13 AM
                            [**2150-11-12**]  05:25 PM
                            [**2150-11-12**]  05:40 PM
                            [**2150-11-12**]  10:41 PM
                            [**2150-11-12**]  10:58 PM
                            [**2150-11-13**]  04:01 AM
                            [**2150-11-13**]  10:22 AM
                            [**2150-11-13**]  05:12 PM
                            [**2150-11-13**]  10:22 PM
                            [**2150-11-14**]  04:22 AM
   WBC
   10.5
   14.5
   Hct
   24.9
   28.9
   Plt
   241
   250
   Cr
   1.2
   1.2
   1.5
   1.4
   TCO2
   28
   29
   28
   Glucose
   159
   99
   111
   131
   152
   136
   128
   Other labs: PT / PTT / INR:15.0/53.1/1.3, CK / CKMB /
   Troponin-T:32/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:9.0 %, Mono:1.7 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.2
   g/dL, LDH:96 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:1.1 mg/dL
   Imaging: CXR: improved opacities at right base. Unchanged on left.
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   ANEMIA
   Respiratory status remains good with excellent oxygenation on trach
   mask.
   Hemodynamics remains tenuous; now on norepi again. Despite total body
   volume overload, the CVP has remained low and good oxygenation argues
   against CHF. Will restart vasopressin and see if that allows us to
   stabliize the BP without the potential vascular problems associated
   with norepinephrine.
   Continues on antibiotics. WBC up today; check differential. Decubitus
   debrided again by plastic surgery.
   Patient received transfusion of RBC's yesterday.
   Heparin infusion to be restarted for Afib.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2150-11-15 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient hypotensive in AM when getting large fentanyl boluses for
   aggressive debridement by plastics -> started on Levophed.  Decided to
   transition to Vasopressin, to limit peripheral vasoconstriction
   Renal recommended d/c CVVH and start on HD on Monday.
   Plastics debrided and recommended wound care and nutrition ? possivle
   diverting colostomy to eliminate contamination and allow healing.
   Started on Lactulose to allow stool to flow into flexiseal and limit
   leakage.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-13**] 12:00 PM
   Meropenem - [**2150-11-15**] 03:41 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-14**] 10:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Pt denies chest pain, shortness of breath.  Has
   [**8-26**] back pain from debridement
   Flowsheet Data as of  [**2150-11-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 91 (53 - 111) bpm
   BP: 101/50(61) {71/33(44) - 138/66(80)} mmHg
   RR: 22 (16 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 292 (-1 - 319)mmHg
   Total In:
                                                                  6,781 mL
                                                                    556 mL
   PO:
   TF:
                                                                    660 mL
                                                                    200 mL
   IVF:
                                                                  5,851 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  6,674 mL
                                                                      0 mL
   Urine:
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    107 mL
                                                                    556 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   Physical Examination
   GEN:  resting comfortably, no apparent distress
   HEENT: PERRL, MMM
   CV: rrr, no appreciable mumur
   PULM: CTA anteriorly
   ABD: obese, +BS, soft, NT, ND
   EXT: 2+ radial pulses, left LE with extensive venous stasis changes,
   1,2 toe amputation.  Diminshed pulse.  R BKA.
   SKIN: Scattered ecchymosis, no obvious rashes.  Sacral ulcer not
   assessed.
   Labs / Radiology
   3.9
    32
   224 K/uL
   8.9g/dL
   300 mg/dL
   1.9 mg/dL
   33 mEq/L
   98 mEq/L
   138mEq/L
   27.9
                                                                      12.9
                                                                      K/uL
         [image002.jpg]
                            [**2150-11-12**]  05:40 PM
                            [**2150-11-12**]  10:41 PM
                            [**2150-11-12**]  10:58 PM
                            [**2150-11-13**]  04:01 AM
                            [**2150-11-13**]  10:22 AM
                            [**2150-11-13**]  05:12 PM
                            [**2150-11-13**]  10:22 PM
                            [**2150-11-14**]  04:22 AM
                            [**2150-11-14**]  10:53 AM
                            [**2150-11-15**]  12:17 AM
   WBC
   10.5
   14.5
   Hct
   24.9
   28.9
   Plt
   241
   250
   Cr
   1.2
   1.5
   1.4
   TCO2
   29
   28
   Glucose
   99
   111
   131
   152
   136
   128
   153
   130
   Source: [**Name (NI) 6762**]
   PT: 16.3
   PTT: 63.2
   INR: 1.5
   Ca: 8.2 Mg: 1.7 P: 1.9
   CK: Pnd
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub; now HD 12.
   .
   # Hypotension:  Sporadic episodes of hypotension even off of CVVH.  [**Month (only) 60**]
   have been exacerbated by pain control attempts.
   Currently on vasopressin.
   - continue meropenem and daptomycin (D11) until [**2150-11-27**] with
   reassessment at that time, cont PO vanc until other Abx are
     stopped
   - Midodrine at 7.5mg [**Hospital1 **]
   - maintain current hydrocort dosing (25mg IV q12)
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief dispite uptitrate fentanyl dosing.   Currently with patch at 25
   with 25-50 mcg prn.  Due to switch patch today
   - consider increasing patch to 37.5
   .
   # Fluid Overload/ESRD:  LOS approx  9L positive.  Now off of CVVH with
   planned initiation of HD tomorrow.
   - goal of fluid even as BP tolerates.
   - repleted lytes PRN
   - follow with renal team
   .
   # Chronic Respiratory Failure: Sputum from [**11-4**] with acinetobacter may
   be c.w chronic colonization rather than etiology of current
   presentation. Tolerating trach collar with supplemental O2.
   - Cont broad spectrum abx.
   - continue to follow cultures
   - continue with trach mask
   .
   # R BKA with Sacral and Leg ulcers: No appreciable improvement. Sacrum
   s/p aggressive debridement yesterday.
    - f/u Wound recs
   - Continue Dakins [**Hospital1 **] until [**11-16**] and then wet to dry dressings as per
   plastics
   - continue flexiseal/lactulose.
   .
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   .
   # Atrial Fibrillation/bradycardia: Baseline Afib; had several episodes
   of bradycardia down to 40
s.  EKG with possible alternative atrail
   focus in the setting of electrolyte abnormalities.
   - Cont Heparin gtt
   - Holding B-blocker in setting of recent hypotension
   - repleat electrolytes.
   .
   # Type II DM:  BS elevated this AM at 300, lantus given at half dose
   yesterday when NPO.
   - Cont ISS and Lantus; return to regular dosing
   - monitor
   ICU Care
   Nutrition:
   Glycemic Control:   Iss plus basal dosing
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, RSBI
   Communication:  with patient
   Code status: Full code
   Disposition: ICU care

2150-11-15 11:58:00 Physician Attending Progress Note
Chief Complaint: Hypotension, Chronic renal failure, cirrhosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well off levophed overnight; continues on vasopressin. Complaining
   of pain from debridement of sacral decubitus. Temp less than 100.
   Had occasional episodes of bradycardia - rhythm strip shows APC's with
   sinus pauses.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-13**] 12:00 PM
   Meropenem - [**2150-11-15**] 03:41 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-15**] 09:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-15**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 89 (53 - 111) bpm
   BP: 101/44(57) {76/40(48) - 138/62(76)} mmHg
   RR: 25 (16 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 103 kg
   Height: 63 Inch
   CVP: 4 (4 - 319)mmHg
   Total In:
                                                                  6,783 mL
                                                                  1,075 mL
   PO:
   TF:
                                                                    662 mL
                                                                    453 mL
   IVF:
                                                                  5,851 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  6,674 mL
                                                                    350 mL
   Urine:
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    109 mL
                                                                    725 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: BKA, Left: 1+ edema, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   224 K/uL
   300 mg/dL
   1.9 mg/dL
   33 mEq/L
   3.9 mEq/L
   32 mg/dL
   98 mEq/L
   138 mEq/L
   27.9 %
   12.9 K/uL
        [image002.jpg]
                            [**2150-11-12**]  10:41 PM
                            [**2150-11-12**]  10:58 PM
                            [**2150-11-13**]  04:01 AM
                            [**2150-11-13**]  10:22 AM
                            [**2150-11-13**]  05:12 PM
                            [**2150-11-13**]  10:22 PM
                            [**2150-11-14**]  04:22 AM
                            [**2150-11-14**]  10:53 AM
                            [**2150-11-15**]  12:17 AM
                            [**2150-11-15**]  06:19 AM
   WBC
   10.5
   14.5
   12.9
   Hct
   24.9
   28.9
   27.9
   Plt
   241
   250
   224
   Cr
   1.2
   1.5
   1.4
   1.9
   TCO2
   28
   Glucose
   99
   111
   131
   152
   136
   128
   153
   130
   300
   Other labs: PT / PTT / INR:16.3/63.2/1.5, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:1.9
   mg/dL
   Imaging: CXR: siginificant increase in interstitial edema and bilateral
   pleural effusions.
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   ANEMIA
   Hemodynamics somewhat better in past 24 hours. Would continue
   vasopressin until mid-afternoon and then stop.  CXR suggests patient
   significantly volume overloaded; received fluids yesterday with
   hypotension. CVP remains low. Oxygenation good despite CXR appearance.
   Continues on antibiotics. WBC stable. Temp under 100.
   Hct stable. Not at threshold for transfusion.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-15**] 04:56 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2150-11-16 07:29:00 Physician Resident Progress Note
Chief Complaint: decubitous ulcers
   24 Hour Events:
   Was on pressors but is off as of yesterday afternoon (BP runs low,
   baseline mid 80's SBP).
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-15**] 03:41 AM
   Daptomycin - [**2150-11-15**] 12:45 PM
   Vancomycin - [**2150-11-16**] 12:57 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2150-11-15**] 11:50 PM
   Fentanyl - [**2150-11-16**] 02:15 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Subj complaints of terrible nightmares.
   Flowsheet Data as of  [**2150-11-16**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 96 (54 - 99) bpm
   BP: 95/38(52) {86/33(46) - 115/78(81)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
    CVP: 1 (-4 - 8)mmHg
   Total In:
                                                                  2,200 mL
                                                                    576 mL
   PO:
   TF:
                                                                    961 mL
                                                                    299 mL
   IVF:
                                                                    910 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,050 mL
                                                                    576 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   GEN: NAD, Awake, alert
   HEENT: NCAT, MMM, PERLA
   PULM: CTBL, No R/W
   ABD: S/NT/ND
   EXT: There is a left point of evolving erythema underneath lift nail,
   concerning for developing infection/ulcer. There is a LLE developing
   erosion from placement of the patien
t stump over overlying skin when
   he sleeps.
   NEURO: Responsive. Poor refelxes BL. No focal defecits.
   Labs / Radiology
   234 K/uL
   8.9 g/dL
   163 mg/dL
   2.9 mg/dL
   31 mEq/L
   4.0 mEq/L
   49 mg/dL
   100 mEq/L
   142 mEq/L
   28.4 %
   14.8 K/uL
        [image002.jpg]
                            [**2150-11-13**]  04:01 AM
                            [**2150-11-13**]  10:22 AM
                            [**2150-11-13**]  05:12 PM
                            [**2150-11-13**]  10:22 PM
                            [**2150-11-14**]  04:22 AM
                            [**2150-11-14**]  10:53 AM
                            [**2150-11-15**]  12:17 AM
                            [**2150-11-15**]  06:19 AM
                            [**2150-11-15**]  05:39 PM
                             [**2150-11-16**]  05:55 AM
   WBC
   10.5
   14.5
   12.9
   14.8
   Hct
   24.9
   28.9
   27.9
   28.4
   Plt
   241
   250
   224
   234
   Cr
   1.2
   1.5
   1.4
   1.9
   2.4
   2.9
   Glucose
   111
   131
   152
   136
   128
   153
   130
   300
   180
   163
   Other labs: PT / PTT / INR:16.3/57.6/1.5, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub; now HD 12.
   .
   # Hypotension:  Sporadic episodes of hypotension even off of CVVH.  [**Month (only) 60**]
   have been exacerbated by pain control attempts.
   .Vasopressin stopped yesterday.
   - continue meropenem and daptomycin (D11) until [**2150-11-27**] with
   reassessment at that time, cont PO vanc until other Abx are
     stopped
   - Midodrine at 7.5mg [**Hospital1 **]
   - change  hydrocort dosing (25mg IV q12) to Prednisone 15mg
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief dispite uptitrate fentanyl dosing.   Currently with patch at 25
   with 25-50 mcg prn.  Patch switched yesterday
   - consider increasing patch to 37.5
   .
   # Fluid Overload/ESRD: Was around 9 L postive yesterday.  Now off of
   CVVH with planned initiation of HD today.
   - goal of fluid even as BP tolerates
patient was 1L positive overnight
   - repleted lytes PRN
   - follow with renal team
   .
   # Chronic Respiratory Failure: Sputum from [**11-4**] with acinetobacter may
   be c.w chronic colonization rather than etiology of current
   presentation. Tolerating trach collar with supplemental O2.
   - Cont broad spectrum abx.
   - continue to follow cultures
   - continue with trach mask
   .
   # R BKA with Sacral and Leg ulcers: No appreciable improvement. Sacrum
   s/p aggressive debridement yesterday.
    - f/u Wound recs
   - Continue Dakins [**Hospital1 **] until [**11-16**] and then wet to dry dressings as per
   plastics. Note to nursing
yes, may stop Dakins.
   - continue flexiseal/lactulose.
   .
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   .
   # Atrial Fibrillation/bradycardia: Baseline Afib; had several episodes
   of bradycardia down to 40
s.  EKG with possible alternative atrail
   focus in the setting of electrolyte abnormalities.
   - Cont Heparin gtt
   - Holding B-blocker in setting of recent hypotension
   - repleat electrolytes.
   .
   # Type II DM:  BS elevated this AM at 300, lantus given at half dose
   yesterday when NPO.
   - Cont ISS and Lantus; return to regular dosing
   - monitor
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-15**] 10:56 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-16 11:25:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight, has come off vasopressors again.
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-15**] 03:41 AM
   Daptomycin - [**2150-11-15**] 12:45 PM
   Vancomycin - [**2150-11-16**] 12:57 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Heparin Sodium - [**2150-11-15**] 11:50 PM
   Fentanyl - [**2150-11-16**] 10:00 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2150-11-16**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 68 (54 - 99) bpm
   BP: 102/35(53) {86/33(46) - 114/78(81)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
   CVP: 2 (-4 - 8)mmHg
   Total In:
                                                                  2,200 mL
                                                                    859 mL
   PO:
   TF:
                                                                    961 mL
                                                                    446 mL
   IVF:
                                                                    910 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    175 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,050 mL
                                                                    684 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   234 K/uL
   163 mg/dL
   2.9 mg/dL
   31 mEq/L
   4.0 mEq/L
   49 mg/dL
   100 mEq/L
   142 mEq/L
   28.4 %
   14.8 K/uL
        [image002.jpg]
                            [**2150-11-13**]  04:01 AM
                            [**2150-11-13**]  10:22 AM
                            [**2150-11-13**]  05:12 PM
                            [**2150-11-13**]  10:22 PM
                            [**2150-11-14**]  04:22 AM
                            [**2150-11-14**]  10:53 AM
                            [**2150-11-15**]  12:17 AM
                            [**2150-11-15**]  06:19 AM
                            [**2150-11-15**]  05:39 PM
                             [**2150-11-16**]  05:55 AM
   WBC
   10.5
   14.5
   12.9
   14.8
   Hct
   24.9
   28.9
   27.9
   28.4
   Plt
   241
   250
   224
   234
   Cr
   1.2
   1.5
   1.4
   1.9
   2.4
   2.9
   Glucose
   111
   131
   152
   136
   128
   153
   130
   300
   180
   163
   Other labs: PT / PTT / INR:15.0/97.8/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   1) Acute on Chronic Respiratory Failure
   - Off mechanical ventilation at this time - on trach shield
   2) Sepsis
   - improved and off vasopressors
   - Change hydrocortisone to prednisone
   3) ESRD
   - HD today
   4) Decubitus Ulceration
   - Continue to follow wound care and plastic recommendations
   5) History of C. Diff
   6) Atrial fibrillation:
   - will plan to transition over to coumadin
   7) Line
   Disposition: Will plan to move toward return to nursing home/rehab.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-16**] 09:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2150-11-17 07:42:00 Physician Resident Progress Note
Chief Complaint: PNA
   24 Hour Events:
   - Plastic Surgery - plan to debride sacral wound (request continue
   holding coumadin)
   - HD - 2 L removed.
   - PICC line deferred until after HD finished
   - Hydrocortisone 25 [**Hospital1 **] --> Predisone 15 mg po daily
   - Increased daily glargine from 20 to 28
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-15**] 12:45 PM
   Vancomycin - [**2150-11-16**] 12:57 AM
   Meropenem - [**2150-11-17**] 04:00 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-16**] 10:00 AM
   Heparin Sodium - [**2150-11-16**] 02:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-17**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 97 (68 - 97) bpm
   BP: 90/38(51) {90/35(51) - 114/62(68)} mmHg
   RR: 23 (15 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
    CVP: -21 (-21 - 3)mmHg
   Total In:
                                                                  2,015 mL
                                                                    627 mL
   PO:
   TF:
                                                                    967 mL
                                                                    307 mL
   IVF:
                                                                    718 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   8.7 g/dL
   112 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.6 mEq/L
   32 mg/dL
   107 mEq/L
   145 mEq/L
   27.0 %
   11.4 K/uL
        [image002.jpg]
                            [**2150-11-13**]  10:22 AM
                            [**2150-11-13**]  05:12 PM
                            [**2150-11-13**]  10:22 PM
                            [**2150-11-14**]  04:22 AM
                            [**2150-11-14**]  10:53 AM
                            [**2150-11-15**]  12:17 AM
                            [**2150-11-15**]  06:19 AM
                            [**2150-11-15**]  05:39 PM
                             [**2150-11-16**]  05:55 AM
                             [**2150-11-17**]  03:03 AM
   WBC
   14.5
   12.9
   14.8
   11.4
   Hct
   28.9
   27.9
   28.4
   27.0
   Plt
   [**Telephone/Fax (3) 6802**]38
   Cr
   1.5
   1.4
   1.9
   2.4
   2.9
   2.1
   Glucose
   131
   152
   136
   128
   153
   130
   300
   180
   163
   112
   Other labs: PT / PTT / INR:14.7/100.9/1.2, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.6
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub; now HD 12.
   .
   # Hypotension:  Sporadic episodes of hypotension even off of CVVH.  [**Month (only) 60**]
   have been exacerbated by pain control attempts.
   .Vasopressin stopped yesterday.
   - continue meropenem and daptomycin (D11) until [**2150-11-27**] with
   reassessment at that time, cont PO vanc until other Abx are
     stopped
   - Midodrine at 7.5mg [**Hospital1 **]
   - Prednisone 15mg QD
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief dispite uptitrate fentanyl dosing.   Currently with patch at 25
   with 25-50 mcg prn.  Patch switched yesterday
   - consider increasing patch to 37.5
   .
   # Fluid Overload/ESRD: Was around 9 L postive yesterday.  Now off of
   CVVH with planned initiation of HD today.
   - goal of fluid even as BP tolerates
patient was 1L positive overnight
   - repleted lytes PRN
   - follow with renal team
   .
   # Chronic Respiratory Failure: Sputum from [**11-4**] with acinetobacter may
   be c.w chronic colonization rather than etiology of current
   presentation. Tolerating trach collar with supplemental O2.
   - Cont broad spectrum abx.
   - continue to follow cultures
   - continue with trach mask
   .
   # R BKA with Sacral and Leg ulcers: No appreciable improvement. Sacrum
   s/p aggressive debridement yesterday.
    - f/u Wound recs
   - stop Dakins.
   - continue flexiseal/lactulose.
   .
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   .
   # Atrial Fibrillation/bradycardia: Baseline Afib; had several episodes
   of bradycardia down to 40
s.  EKG with possible alternative atrail
   focus in the setting of electrolyte abnormalities.
   - Cont Heparin gtt
plan to begin starting Coumadin shortly, but
   plastics plans [**Hospital1 **] debridements so asking us to hold off at moment
   - [**Name2 (NI) 1569**] [**Name (NI) 6803**] in setting of recent hypotension
   - repleat electrolytes.
   .
   # Type II DM:  BS elevated this AM at 300, lantus given at half dose
   yesterday when NPO.
   - Cont ISS and Lantus; return to regular dosing
   - monitor
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-16**] 09:34 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   Multi Lumen - [**2150-11-4**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient, agree with the assessment and
   planned outlined by the resident note above with the following
   emphasis.  Patient unable to provide complete history due to
   tracheostomy without capacity to speak.
   Overnight, no new problems.  Did have HD and 2 liters removed.  No new
   complaints.
   Gen: Obese, no acute distress
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Obese, soft NT ND
   Ext: edema (+2) bilat
   A:
   1)       Hypotension: seems to be improved now and will decrease
   hydrocortisone to prednisone, keep midrinone; follow
   2)       Fluid overload: continue HD
   3)       Decub Ulcerations: plastics debriding
   4)       A. fib: heparin
   5)       Resp Failure: continue trach shield as tolerated
   Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2150-11-24**] 02:31 AM ------

2150-11-18 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2150-11-17**] 11:13 AM
 MULTI LUMEN - STOP [**2150-11-17**] 08:28 PM
   [**11-17**]
   -Pulled EJ
   -per plastics, future debridements as outpatient
   -Rec'd blood 1 unit per renal for Hgb goal of  >9
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-11-16**] 12:57 AM
   Daptomycin - [**2150-11-17**] 11:30 AM
   Meropenem - [**2150-11-18**] 04:31 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-17**] 09:25 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  [**6-25**] pain, feels anxious, short of breath
   Flowsheet Data as of  [**2150-11-18**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 93 (87 - 105) bpm
   BP: 106/53(64) {87/39(53) - 119/73(83)} mmHg
   RR: 27 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
           Total In:
                                                                  2,198 mL
                                                                    915 mL
   PO:
           TF:
                                                                    960 mL
                                                                    285 mL
   IVF:
                                                                    831 mL
                                                                    289 mL
   Blood products:
                                                                     87 mL
                                                                    201 mL
   Total out:
                                                                  1,130 mL
                                                                    320 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,068 mL
                                                                    595 mL
   Respiratory support
   O2 Delivery Device: Trach mask  40%
   SpO2: 100%
   Physical Examination
   GEN: NAD, Awake, alert
   HEENT: NCAT, MMM, PERLA
   PULM: CTA anteriorly,
   ABD: S/NT/ND
   EXT: There is a left point of evolving erythema underneath lift nail,
   concerning for developing infection/ulcer. There is a LLE developing
   erosion from placement of the patien
t stump over overlying skin when
   he sleeps.
   NEURO: Responsive. Poor refelxes BL. No focal defecits.
   Labs / Radiology
   221 K/uL
   9.2 g/dL
   196
   2.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   49 mg/dL
   105 mEq/L
   141 mEq/L
   28.4 %
   10.7 K/uL
        [image002.jpg]
                            [**2150-11-14**]  04:22 AM
                            [**2150-11-14**]  10:53 AM
                            [**2150-11-15**]  12:17 AM
                            [**2150-11-15**]  06:19 AM
                            [**2150-11-15**]  05:39 PM
                             [**2150-11-16**]  05:55 AM
                             [**2150-11-17**]  03:03 AM
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
   WBC
   14.5
   12.9
   14.8
   11.4
   10.7
   Hct
   28.9
   27.9
   28.4
   27.0
   28.4
   Plt
   [**Telephone/Fax (3) 6802**]38
   221
   Cr
   1.4
   1.9
   2.4
   2.9
   2.1
   2.8
   Glucose
   128
   153
   130
   300
   180
   163
   112
   131
   169
   196
   Other labs: PT / PTT / INR:15.6/76.3/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:96 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub; now HD 15.
   .
   # Hypotension:  Doing well; off pressors
   - continue meropenem and daptomycin until [**2150-11-27**] with reassessment at
   that time, cont PO vanc until other Abx are
     stopped
   - Midodrine at 7.5mg [**Hospital1 **]
   - Prednisone 15mg QD
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief dispite uptitrate fentanyl dosing.   Currently with patch at 25
   with 25-50 mcg prn.
   - consider increasing patch to 50mcg
   .
   # Fluid Overload/ESRD: HD today.
   - replete lytes PRN
   - follow with renal team
   .
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2, sob this AM, likely to fluid since no HD yesterday.
   - Cont broad spectrum abx.
   - follow-up CXR
   - continue to follow cultures
   - continue with trach mask
   .
   # R BKA with Sacral and Leg ulcers:
   - f/u Wound recs
   - stop Dakins.
   - continue flexiseal/lactulose.
   .
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   .
   # Atrial Fibrillation/bradycardia: consider switch to Coumadin
   .
   # Type II DM:  BS elevated this AM at 300, lantus given at half dose
   yesterday when NPO.
   - Cont ISS and Lantus; return to regular dosing
   - monitor
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-17**] 02:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2150-11-18 12:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Having some back pain
   24 Hour Events:
 PICC LINE - START [**2150-11-17**] 11:13 AM
 MULTI LUMEN - STOP [**2150-11-17**] 08:28 PM
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-11-16**] 12:57 AM
   Daptomycin - [**2150-11-17**] 11:30 AM
   Meropenem - [**2150-11-18**] 04:31 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   Med sheet reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-18**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 94 (87 - 105) bpm
   BP: 99/58(67) {87/39(53) - 119/73(83)} mmHg
   RR: 22 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
           Total In:
                                                                  2,198 mL
                                                                  1,397 mL
   PO:
           TF:
                                                                    960 mL
                                                                    490 mL
   IVF:
                                                                    831 mL
                                                                    436 mL
   Blood products:
                                                                     87 mL
                                                                    201 mL
   Total out:
                                                                  1,130 mL
                                                                    320 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,068 mL
                                                                  1,077 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   221 K/uL
   250
   2.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   49 mg/dL
   105 mEq/L
   141 mEq/L
   28.4 %
   10.7 K/uL
        [image002.jpg]
                            [**2150-11-14**]  10:53 AM
                            [**2150-11-15**]  12:17 AM
                            [**2150-11-15**]  06:19 AM
                            [**2150-11-15**]  05:39 PM
                             [**2150-11-16**]  05:55 AM
                             [**2150-11-17**]  03:03 AM
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
   WBC
   12.9
   14.8
   11.4
   10.7
   Hct
   27.9
   28.4
   27.0
   28.4
   Plt
   [**Telephone/Fax (3) 6834**]21
   Cr
   1.9
   2.4
   2.9
   2.1
   2.8
   Glucose
   153
   130
   300
   180
   163
   112
   131
   169
   196
   250
   Other labs: PT / PTT / INR:15.6/76.3/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   1) Sepsis: improved
   -
   2) ESRD: HD three times/week
   3) Decubitus Ulceration
   4) Atrial Fibrillation
   5) Nutrition: tube feeds
   6)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-17**] 02:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2150-11-19 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had dialysis with 4.5L removed
   Goal for ABX per previous ID note was to continue dapto/[**Last Name (un) 430**] until
   [**11-26**], vanco for 2 weeks following discontinuation of course.
   Fentanyl patch increased to 50mcg.
   Last documented afib on [**11-15**]- written to reinitate coumadin.
   Speech and swallow consulted
   Case Management screening for placement.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-17**] 11:30 AM
   Vancomycin - [**2150-11-19**] 12:00 AM
   Meropenem - [**2150-11-19**] 03:44 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-19**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-19**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 91 (86 - 104) bpm
   BP: 92/44(56) {90/27(30) - 111/60(70)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  2,362 mL
                                                                    636 mL
   PO:
             TF:
                                                                    984 mL
                                                                    302 mL
   IVF:
                                                                    777 mL
                                                                    314 mL
   Blood products:
                                                                    201 mL
   Total out:
                                                                  4,620 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,258 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Trach mask
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GEN: NAD, Awake, alert
   HEENT: NCAT, MMM, PERLA
   PULM: CTA anteriorly,
   ABD: S/NT/ND
   EXT: There is a left point of evolving erythema underneath lift nail,
   concerning for developing infection/ulcer. There is a LLE developing
   erosion from placement of the patien
t stump over overlying skin when
   he sleeps.
   NEURO: Responsive. Poor refelxes BL. No focal defecits.
   Labs / Radiology
   235 K/uL
   9.8 g/dL
   110 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.2 mEq/L
   34 mg/dL
   106 mEq/L
   142 mEq/L
   31.5 %
   14.1 K/uL
        [image002.jpg]
                            [**2150-11-15**]  05:39 PM
                             [**2150-11-16**]  05:55 AM
                             [**2150-11-17**]  03:03 AM
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
   WBC
   14.8
   11.4
   10.7
   14.1
   Hct
   28.4
   27.0
   28.4
   31.5
   Plt
   [**Telephone/Fax (3) 6852**]35
   Cr
   2.4
   2.9
   2.1
   2.8
   2.0
   2.2
   Glucose
   180
   163
   112
   131
   169
   196
   [**Telephone/Fax (3) 6853**]
   Other labs: PT / PTT / INR:14.4/58.5/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub; HD day 16.
   .
   # Hypotension:  Doing well; off pressors
   - continue meropenem and daptomycin until [**2150-11-26**] with reassessment at
   that time, cont PO vanc 2 weeks thereafter.
     stopped
   - Midodrine at 7.5mg [**Hospital1 **]
   - Prednisone 15mg QD
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief dispite uptitrate fentanyl dosing.   Currently with patch at
   50mcg with 25-50 mcg prn.
   - consider increasing patch to 50mcg
   .
   # Fluid Overload/ESRD: HD yesterday, took off 4.5 L.
   - replete lytes PRN
   - follow with renal team
   .
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2.
   - Cont broad spectrum abx.
   - follow-up CXR
   - continue to follow cultures
   - continue with trach mask
   .
   # R BKA with Sacral and Leg ulcers:
   - f/u Wound recs
   - stopped Dakins.
   - continue flexiseal/lactulose.
   .
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   .
   # Atrial Fibrillation/bradycardia: reinitiating Coumadin?
   .
   # Type II DM:
   - Cont ISS and Lantus; return to regular dosing
   - monitor
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-19**] 04:50 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-19 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, patient had an episode of hypotension improved with a small
   bolus of IVFs (250 cc).
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-17**] 11:30 AM
   Vancomycin - [**2150-11-19**] 12:00 AM
   Meropenem - [**2150-11-19**] 03:44 AM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-19**] 08:00 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-19**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 92 (86 - 104) bpm
   BP: 93/42(53) {90/27(30) - 111/60(70)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  2,362 mL
                                                                    944 mL
   PO:
             TF:
                                                                    984 mL
                                                                    446 mL
   IVF:
                                                                    777 mL
                                                                    418 mL
   Blood products:
                                                                    201 mL
   Total out:
                                                                  4,620 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,258 mL
                                                                    944 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Trach mask
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Gen: Awake, no acute distress
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Skin:  warm,
   Neurologic: alert, responsive
   Labs / Radiology
   9.8 g/dL
   235 K/uL
   110 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.2 mEq/L
   34 mg/dL
   106 mEq/L
   142 mEq/L
   31.5 %
   14.1 K/uL
        [image002.jpg]
                            [**2150-11-15**]  05:39 PM
                             [**2150-11-16**]  05:55 AM
                             [**2150-11-17**]  03:03 AM
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
   WBC
   14.8
   11.4
   10.7
   14.1
   Hct
   28.4
   27.0
   28.4
   31.5
   Plt
   [**Telephone/Fax (3) 6852**]35
   Cr
   2.4
   2.9
   2.1
   2.8
   2.0
   2.2
   Glucose
   180
   163
   112
   131
   169
   196
   [**Telephone/Fax (3) 6853**]
   Other labs: PT / PTT / INR:14.4/58.5/1.3, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   A:
   1)Hypotension
 had intermittent episode overnight but now resolved
   - follow blood pressure
 further intervention if recurs
   2) Respiratory Failure
   - off ventilator
 continue to monitor saturations
   3) Sepsis: resolved
   4) ESRD: continues hemodialysis
   5) Decubitus Ulceration: cont debridement per plastics
   6) Atrial Fibrillation: will consider change from coumadin to aspirin
   given need for long term debridements but will first check in depth to
   be sure no other reason for anticoagulation as there was some question
   from nursing notes of mesenteric vascular disease
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-19**] 04:50 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2150-11-20 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-11-20**] 06:15 AM
 SPUTUM CULTURE - At [**2150-11-20**] 06:15 AM
   -Renal wants Vanc trough in AM, plan for HD tomorrow,
   -Speech and Swallow: No PMV until trach size is decreased.
   -More robust pain regiment augmented by standying Tylenol and PRN
   Ibuprofen, Fent 50-100.
   -Hypotensive to SBP 70s at 1500 --> 250 cc bolus and improved;
   Hypotensive again at 2200 --> did not respond to 1 L NS --> started
   Levophed gtt
   -No note from Plastic surgery
   -History of SMA thrombus: Family unaware of such dx. Their
   understanding was that coumadin was prescribed for "heart condition".
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-17**] 11:30 AM
   Vancomycin - [**2150-11-19**] 12:00 AM
   Meropenem - [**2150-11-19**] 03:44 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-20**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: As above.
   Flowsheet Data as of  [**2150-11-20**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 85 (72 - 97) bpm
   BP: 116/45(62) {71/34(45) - 131/61(79)} mmHg
   RR: 15 (13 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  3,371 mL
                                                                    478 mL
   PO:
             TF:
                                                                    973 mL
                                                                    297 mL
   IVF:
                                                                  2,088 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    820 mL
   Urine:
   20 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  3,171 mL
                                                                   -342 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   GEN: NAD, Sleepy.
   HEENT: NCAT, MMM, PERLA
   PULM: CTA anteriorly,
   ABD: S/NT/ND
   EXT: There is a left point of evolving erythema underneath lift nail,
   concerning for developing infection/ulcer. There is a LLE developing
   erosion from placement of the patien
t stump over overlying skin when
   he sleeps. L Heel ulcer continues unchanged.
   NEURO: Responsive. Poor refelxes BL. No focal defecits.
   Labs / Radiology
   243 K/uL
   9.5 g/dL
   140 mg/dL
   3.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   48 mg/dL
   105 mEq/L
   141 mEq/L
   30.8 %
   18.4 K/uL
        [image002.jpg]
                             [**2150-11-16**]  05:55 AM
                             [**2150-11-17**]  03:03 AM
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
   WBC
   14.8
   11.4
   10.7
   14.1
   18.4
   Hct
   28.4
   27.0
   28.4
   31.5
   30.8
   Plt
   [**Telephone/Fax (3) 6852**]35
   243
   Cr
   2.9
   2.1
   2.8
   2.0
   2.2
   3.0
   Glucose
   163
   112
   131
   169
   196
   250
   196
   110
   140
   Other labs: PT / PTT / INR:15.4/70.0/1.4, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub; HD day 17, restarted pressors overnight
   for hypotension in setting of rising WBC
   .
   # Hypotension: At lowest point, 71systolic and mean of 45. On Norepi
   low dose, (systolics over 100, mean 60
   - con
t Norepinephrine
 0.03-0.25 mcg/kg/min
   - continue meropenem and daptomycin until [**2150-11-26**] with reassessment at
   that time, cont PO vanc 2 weeks thereafter.
     stopped
   - Midodrine at 7.5mg [**Hospital1 **]
   - Prednisone 15mg QD
   -?Back-off on Fent given hypotension?
   -f/u cultures
   .
   # Pain Control: Currently receiving fentanyl without adequate pain
   relief dispite uptitrate fentanyl dosing.   Currently with patch at
   50mcg with 50-100 mcg prn.
   - consider increasing patch to 50mcg
   .
   # Fluid Overload/ESRD: HD planned, but concerned that patient will
   become more hypotensive if fluid taken off. Need to discuss with team.
   - replete lytes PRN
   - follow with renal team
   .
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2.
   - Cont broad spectrum abx.
   - follow-up CXR
   - continue to follow cultures
   - continue with trach mask
   .
   # R BKA with Sacral and Leg ulcers:
   - f/u Wound recs
   - stopped Dakins.
   - continue flexiseal/lactulose.
   .
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   .
   # Atrial Fibrillation/bradycardia: On Heparin Drip, bridging to
   Coumadin.
   .
   # Type II DM:
   - Cont ISS and Lantus
   - monitor
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-20**] 04:08 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: Heparin/Coumadin
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level care on pressors

2150-11-20 10:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, worsening hypotension requiring fluids and norepinephrine.
   24 Hour Events:
 BLOOD CULTURED - At [**2150-11-20**] 06:15 AM
 SPUTUM CULTURE - At [**2150-11-20**] 06:15 AM
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-17**] 11:30 AM
   Vancomycin - [**2150-11-19**] 12:00 AM
   Meropenem - [**2150-11-19**] 03:44 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2150-11-20**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-20**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 81 (72 - 97) bpm
   BP: 117/51(63) {71/34(45) - 131/61(79)} mmHg
   RR: 14 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  3,371 mL
                                                                    627 mL
   PO:
             TF:
                                                                    973 mL
                                                                    392 mL
   IVF:
                                                                  2,088 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    820 mL
   Urine:
   20 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  3,171 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Chest: CTA bilaterally
   Left foot: ulceration to the heel
 some area of necrosis
   Skin:  warm
   Neurologic: no focal neurological findings
   Labs / Radiology
   9.5 g/dL
   243 K/uL
   140 mg/dL
   3.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   48 mg/dL
   105 mEq/L
   141 mEq/L
   30.8 %
   18.4 K/uL
        [image002.jpg]
                             [**2150-11-16**]  05:55 AM
                             [**2150-11-17**]  03:03 AM
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
   WBC
   14.8
   11.4
   10.7
   14.1
   18.4
   Hct
   28.4
   27.0
   28.4
   31.5
   30.8
   Plt
   [**Telephone/Fax (3) 6852**]35
   243
   Cr
   2.9
   2.1
   2.8
   2.0
   2.2
   3.0
   Glucose
   163
   112
   131
   169
   196
   250
   196
   110
   140
   Other labs: PT / PTT / INR:15.4/70.0/1.4, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   1) Hypotension
   - [**Month (only) 60**] have had aspiration during a speech and swallow study yesterday
   as soon afterward had hypotension and now today there is a new left
   sided infiltrate.  Thus, likely an aspiration event.  Levophed is at a
   very low dose and BP improved so likely will rapidly wean
   Plan:
   - wean off levophed as tolerated
   - continue on antibiotics
   2) ESRD
   3) Decubitus Ulcerations: discuss with plastics the long-term plan
   4) Heel Ulceration:
   - debridment
   5) DM
   6)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-20**] 04:08 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30

2150-11-21 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Plastics not able to do debridement yesterday for logistical reasons.
   This AM, pt was scheduled for debridement, but on premedication in
   anticipation of pain, there was moderate hypotension. Because HD was
   scheduled for this morning and further hypotension would be expected if
   pt. were to continue to rec. Fentanyl for debridement, decision was
   made to proceed with HD but hold-off on debridement. Debridement will
   take place either this afternoon or tomorrow at 10:00AM; team
   understands patient
s discharge is pending.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-21**] 03:30 AM
   Vancomycin - [**2150-11-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-11-20**] 08:00 PM
   Fentanyl - [**2150-11-21**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-21**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 84 (75 - 85) bpm
   BP: 94/45(55) {87/39(51) - 117/55(73)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  1,927 mL
                                                                    720 mL
   PO:
             TF:
                                                                    963 mL
                                                                    268 mL
   IVF:
                                                                    744 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                      0 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    757 mL
                                                                    720 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   GEN: NAD, Sleepy.
   HEENT: NCAT, MMM, PERLA
   PULM: CTA anteriorly,
   ABD: S/NT/ND
   EXT: There is a left point of evolving erythema underneath lift nail,
   concerning for developing infection/ulcer. There is a LLE developing
   erosion from placement of the patien
t stump over overlying skin when
   he sleeps. L Heel ulcer continues unchanged.
   NEURO: Responsive. Poor refelxes BL. No focal defecits.
   Labs / Radiology
   235 K/uL
   8.9 g/dL
   118 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.9 mEq/L
   63 mg/dL
   106 mEq/L
   142 mEq/L
   28.8 %
   13.5 K/uL
        [image002.jpg]
                             [**2150-11-17**]  03:03 AM
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
   WBC
   11.4
   10.7
   14.1
   18.4
   13.5
   Hct
   27.0
   28.4
   31.5
   30.8
   28.8
   Plt
   238
   221
   235
   243
   235
   Cr
   2.1
   2.8
   2.0
   2.2
   3.0
   3.8
   Glucose
   112
   131
   169
   196
   [**Telephone/Fax (2) 6894**]40
   118
   Other labs: PT / PTT / INR:15.4/70.0/1.4, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o male with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub; HD day 18, restarted pressors three days
   ago for hypotension that quickly resolved. Off pressors with white
   cells trending down and afebrile.
   .
   # Hypotension: In general has much improved with lows in mid-90
s off
   pressors, but patient is sensitive to Fentanyl. Patient to get HD today
   which may further reduce volume and trigger some hypotension, will
   require monitoring.
   - continue meropenem and daptomycin until [**2150-11-26**] with reassessment at
   that time, cont PO vanc 2 weeks thereafter.
     stopped
   - Midodrine at 7.5mg [**Hospital1 **]
   - Prednisone 15mg QD
   -Very conservative use of Fent in setting of HD today?
   -f/u cultures
   .
   # Pain Control: Currently receiving fentanyl, 150mcg since midnight
   plus   patch at 50mcg. Will ask nursing to try to conservatively limit
   Fentanyl use today given HD.
   -          continue patch
   -          please hold Fent until after HD is finished this AM
   .
   # Fluid Overload/ESRD: HD planned today.
   - replete lytes PRN
   - follow with renal team
   .
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2.
   - Cont broad spectrum abx.
   - follow-up CXR
   - continue to follow cultures
   - continue with trach mask
   .
   # R BKA with Sacral and Leg ulcers:
   - f/u Wound recs
   - stopped Dakins.
   - continue flexiseal/lactulose.
   .
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   .
   # Atrial Fibrillation/bradycardia: Hold Hep/Coumadin before debridement
   tomorrow. Continue plan to bridge.
   .
   # Type II DM:
   - Cont ISS and Lantus
   - monitor
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-21**] 03:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-21 11:29:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo male with hx Pseudomonal pna's, ESRD, CAD, afib
   Admitted with sepsis with decub most likely source, initially
   pressor-dependent though recently weaned
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-21**] 03:30 AM
   Vancomycin - [**2150-11-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-11-20**] 08:00 PM
   Fentanyl - [**2150-11-21**] 06:00 AM
   Other medications:
   colace, daptomycin, chlorhexidine, alb/atrov, protonix, mitodrine,
   prednisone 15 mg daily, SSI, epo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2150-11-21**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 77 (75 - 85) bpm
   BP: 106/50(63) {85/36(48) - 112/55(73)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  1,927 mL
                                                                    898 mL
   PO:
             TF:
                                                                    963 mL
                                                                    446 mL
   IVF:
                                                                    744 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    200 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    757 mL
                                                                    698 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Obese Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic)
   Respiratory / Chest: (Expansion: Symmetric), Trach'd
   Abd: obese, soft, nontender
   Extremities: left LE and right stump discolored but unchanged, heel
   decub
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   235 K/uL
   118 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.9 mEq/L
   63 mg/dL
   106 mEq/L
   142 mEq/L
   28.8 %
   13.5 K/uL
        [image002.jpg]
                             [**2150-11-17**]  03:03 AM
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
   WBC
   11.4
   10.7
   14.1
   18.4
   13.5
   Hct
   27.0
   28.4
   31.5
   30.8
   28.8
   Plt
   238
   221
   235
   243
   235
   Cr
   2.1
   2.8
   2.0
   2.2
   3.0
   3.8
   Glucose
   112
   131
   169
   196
   [**Telephone/Fax (2) 6894**]40
   118
   Other labs: PT / PTT / INR:18.0/70.7/1.6, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.3 %, Eos:0.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.7
   mg/dL
   Imaging: CXR: pulm edema (is getting HD today)
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   Pt with ESRD, prior Pseudomonas PNA
s, type 2 DM, afib on
   anticoagulation admitted with sepsis (decubiti, possible line infxn)
   and relative adrenal insufficiency- now off pressors
   *Continue Vanco/Merepenem/daptomycin for 4 wk course total
   *Pain control with fentanyl, NSAID
s and add lidocaine patches. Review
   outside records for home regimen
   *Increase mitodrine
   *Wean prednisone which was added for rel.adrenal insufficiency
   *HD today for chronic renal failure
   *Plastics to debride heel likely tomorrow
   *Plan for Rehab tx when bed available
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-21**] 03:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2150-11-22 08:23:00 Physician Resident Progress Note
Chief Complaint: Fever, Hypotension
   24 Hour Events:
   - had HD with fluid removal of 2.4
   - Pain management strategy initiated with lidocaine patches and
   ibuprofen; minimal improvement
   -  On Vanco/Meropenem Abx--> [**11-27**] goal
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-21**] 12:30 PM
   Meropenem - [**2150-11-22**] 04:08 AM
   Vancomycin - [**2150-11-22**] 05:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-11-21**] 07:55 PM
   Fentanyl - [**2150-11-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-22**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 86 (75 - 87) bpm
   BP: 80/56(60) {80/42(53) - 112/57(67)} mmHg
   RR: 24 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  1,908 mL
                                                                    685 mL
   PO:
             TF:
                                                                    909 mL
                                                                    327 mL
   IVF:
                                                                    479 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    450 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -692 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GEN: NAD, Sleepy.
   HEENT: NCAT, MMM, PERLA
   PULM: CTA anteriorly,
   ABD: S/NT/ND
   EXT: There is a LLE developing erosion from placement of the patien
   stump over overlying skin when he sleeps. L Heel ulcer continues
   unchanged.
   NEURO: Responsive. Poor refelxes BL. No focal defecits.
   Labs / Radiology
   193 K/uL
   9.2 g/dL
   99 mg/dL
   3.0 mg/dL
   25 mEq/L
   4.3 mEq/L
   43 mg/dL
   108 mEq/L
   144 mEq/L
   30.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
   WBC
   10.7
   14.1
   18.4
   13.5
   12.3
   Hct
   28.4
   31.5
   30.8
   28.8
   30.4
   Plt
   221
   235
   243
   235
   193
   Cr
   2.8
   2.0
   2.2
   3.0
   3.8
   3.0
   Glucose
   131
   169
   196
   [**Telephone/Fax (3) 6853**]
   140
   118
   99
   Other labs: PT / PTT / INR:16.8/54.1/1.5, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o man with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub.
   .
   # Hypotension:  much improved with lows in mid-90
s off pressors.
   Increased midodrine to 15mg.  Per Renal team, pt should not be bolused
   and as long as pt is mentating, can feel comfortable with low BPs.
   Prednisone weaned to 10mg yesterday
   - continue meropenem and daptomycin  until [**2150-11-26**] with reassessment
   at that time, cont PO vanc 2 weeks thereafter; will need repeat vanco
   level this AM with subsequent dosing.
   - Midodrine at 7.5mg [**Hospital1 **]
   - Prednisone at 10mg, decrease to 5 for 3 days.
   - judicial use of fentanyl given sensitivity
   - f/u cultures
   .
   # Pain Control: Currently receiving fentanyl patch,  Ibuprofen,
   # Fluid Overload/ESRD: HD yesterday with 2.4 L removed.
   - replete lytes PRN
   - follow with renal team
   .
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2.
   - Cont broad spectrum abx.
   - follow-up CXR
   - continue to follow cultures
   - continue with trach mask
   .
   # R BKA with Sacral and Leg ulcers:
   - f/u Wound recs
   - continue flexiseal/lactulose.
   .
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   .
   # Atrial Fibrillation/bradycardia: Hold Hep/Coumadin before debridement
   tomorrow. Continue plan to bridge.
   .
   # Type II DM:
   - Cont ISS and Lantus
   - monitor
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-22**] 04:21 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: Boots, Heparin gtt
   Stress ulcer: PPI
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility on Monday

2150-11-22 10:16:00 Physician Attending Progress Note
Chief Complaint: Fevers/sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo male with ESRD, hx recurr. Pseudomonas PNA's admitted [**11-3**] from
   Rehab with sepsis/infected decubiti
   24 Hour Events:
   *Underwent HD yesterday with 2.4 liters removal
   *Added lidocaine patches/ibuprofen to pain regimen
   History obtained from [**Hospital 85**] Medical records, [**Hospital Unit Name 44**] housestaff
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-21**] 12:30 PM
   Meropenem - [**2150-11-22**] 04:08 AM
   Vancomycin - [**2150-11-22**] 05:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-11-21**] 07:55 PM
   Fentanyl - [**2150-11-22**] 08:45 AM
   Other medications:
   colace, chlorhexidine, albuterol/atrovent, ferrous sulfate, SSI, lantus
   insulin, epoetin, heparin gtt (afib), tylenol, prednisone 10 mg daily,
   mitodrine, lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-22**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 88 (75 - 88) bpm
   BP: 77/32(42) {77/32(42) - 112/57(67)} mmHg
   RR: 22 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  1,908 mL
                                                                    812 mL
   PO:
             TF:
                                                                    909 mL
                                                                    394 mL
   IVF:
                                                                    479 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    450 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -692 mL
                                                                    362 mL
   Respiratory support
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Chest: left SC dialysis line, erythema at exit site
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: RLE stump and LLE remain discolored, but unchanged and
   extremities warm
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   193 K/uL
   99 mg/dL
   3.0 mg/dL
   25 mEq/L
   4.3 mEq/L
   43 mg/dL
   108 mEq/L
   144 mEq/L
   30.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2150-11-18**]  12:00 AM
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
   WBC
   10.7
   14.1
   18.4
   13.5
   12.3
   Hct
   28.4
   31.5
   30.8
   28.8
   30.4
   Plt
   221
   235
   243
   235
   193
   Cr
   2.8
   2.0
   2.2
   3.0
   3.8
   3.0
   Glucose
   131
   169
   196
   [**Telephone/Fax (3) 6853**]
   140
   118
   99
   Other labs: PT / PTT / INR:16.8/54.1/1.5, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   73 yo male with ESRD, hx chronic resp failure s/p trach, hx  Cdiff
   resolving sepsis related to infected decub with +Enterobacter
   1.       Sepsis: continue Merepenem/Vanco/daptomycin until [**11-26**]
                Give a half-dose today of vanco according to levels
                Per plastics eval: today
x exam showed further perineal
   breakdown- if additional debridement continue, wound area will continue
   to enlarge- ultimately would need diverting colostomy to allow decub to
   heal. Will discuss overall px with family. Continue wet to dry dressing
   with plastics f/u.
   2.       Pain control: on tylenol, lidocaine, oxycodone for pain. Would
   benefit from pain consult at [**Hospital1 82**]
   3. Dispo: planning tx to Rehab tomorrow.
   Other plans as per ICU team
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-22**] 04:21 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2150-11-23 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Off pressors
   - HD MWF. Removed 1.5 L [**11-21**].
   - Stop heparin gtt and transition to coumadin
   - Prednisone decreased to 10 daily and Midodrine increased to 15 mg po
   bid [**11-21**]
   - Plastic surgery - suggest wet to dry dressing change for sacral decub
   ulcer [**Hospital1 **] with xeroform, will definitively need colostomy for ulcer to
   heal (plan for gen surgery f/u as outpt); has f/u for outpt scheduled
   with plastics; report heel ulcer is dry eschar and look good --> recc.d
   silividine [**Hospital1 **] (then stop silvidene when escar falls off)
   - Vanco - received 750 mg IV x1 [**11-22**] (vanc level 14)
   - Renal - Do not bolus BP as long as mentating, and team should be
   comfortable with low systolic BPs ; plan for HD today  (+/- UF
   Tuesday); agree with midodrine and po oxycodone
   - ID - Continue [**Last Name (un) 430**]/dapto/vanco for aceanetabaceter until [**11-26**] (ID
   will reasess. Plan to ask ID to come in AM.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-21**] 12:30 PM
   Meropenem - [**2150-11-23**] 03:29 AM
   Vancomycin - [**2150-11-23**] 05:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-11-22**] 08:00 PM
   Fentanyl - [**2150-11-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-23**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 74 (68 - 89) bpm
   BP: 82/44(52) {76/32(42) - 104/76(81)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  2,060 mL
                                                                    590 mL
   PO:
             TF:
                                                                    841 mL
                                                                    274 mL
   IVF:
                                                                    758 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    375 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,610 mL
                                                                    215 mL
   Respiratory support
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Responds to questions
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, A/T MMM
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No M/T/R
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: CTA BL but diminished on anterior exam.  Occaional
   wheeze
   Abdominal: Soft, Non-tender, Distended, Obese
   Skin:  Not assessed, Left heel ulcer
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   224 K/uL
   9.3 g/dL
   98 mg/dL
   3.9 mg/dL
   21 mEq/L
   4.8 mEq/L
   57 mg/dL
   105 mEq/L
   143 mEq/L
   31.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
   WBC
   10.7
   14.1
   18.4
   13.5
   12.3
   15.9
   Hct
   28.4
   31.5
   30.8
   28.8
   30.4
   31.1
   Plt
   221
   235
   243
   235
   193
   224
   Cr
   2.8
   2.0
   2.2
   3.0
   3.8
   3.0
   3.9
   Glucose
   169
   196
   250
   196
   110
   140
   118
   99
   98
   Other labs: PT / PTT / INR:17.8/38.6/1.6, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o man with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub.
   .
   # Hypotension:  much improved with lows in mid-90
s off pressors.
   Increased midodrine to 15mg.  Per Renal team, pt should not be bolused
   and as long as pt is mentating we can feel comfortable with low BPs.
   Stress dosed prednisone weaned to 15mg yesterday
   - [**Last Name (un) 430**]/dapto/vanco for aceanetabaceter until [**11-26**] (ID will reasess.
   Plan to ask ID to come in AM.
   - Prednisone at 5mg, decrease to 5 for 3 days.
   - judicial use of fentanyl given sensitivity
   - f/u cultures
   # Infection: No positive blood cultures. Currently on
   meropenem/vancomycin/daptomycin until [**2150-11-26**] with reassessment at
   that time.
   - [**Last Name (un) 430**]/dapto/vanco for aceanetabaceter until [**11-26**] (ID will reasess.
   Plan to ask ID to come today).
   - touch base with ID prior to d/c for follow-up plan/outpatient
   appointment
   - cont PO vanc for c.diff 2 weeks thereafter antibiotic course stopped
   .
   # Pain Control: Currently receiving fentanyl patch,  Ibuprofen,
   acetaminophen, oxycodone and  IV fentanyl PRN.
   - consider outpaient pain consult
   -Lidocaine patches times 3
   -Fentanyl Patch 75mcg
   -Ibuprofen for syngerism
   # Fluid Overload/ESRD: HD yesterday with 2.4 L removed.
   - replete lytes PRN
   - follow with renal team and plan for outpatient HD
   .
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2.
   - Cont broad spectrum abx.
   - follow-up CXR
   - continue to follow cultures
   - continue with trach mask
   #Right Heel Ulcer: report heel ulcer is dry eschar and look good s/p
   debridement
   -wet to dry dressing change for sacral decub ulcer [**Hospital1 **] with xeroform
   -will definitively need colostomy for ulcer to heal (plan for gen
   surgery f/u as outpt);
   -has f/u for outpt scheduled with plastics; --> recc.d silividine [**Hospital1 **]
   (then to stop silvidene when escar falls off)
   .
   # R BKA with Sacral and Leg ulcers:   Plastic Surgery recommending
   diverting colostomy.  Will discuss with family and determine whether
   this is consistant with goals of care.
   - f/u Wound recs
   - continue flexiseal/lactulose.
   # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   antibiotics.
   # Atrial Fibrillation/bradycardia:
   - d/c heparin, restart coumadin
   # Type II DM:
   - Cont ISS and Lantus
   - monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-23 12:59:00 Physician Attending Progress Note
Chief Complaint: Chronic renal failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's overall status stable. BP marginal but patient mentating
   well.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-21**] 12:30 PM
   Meropenem - [**2150-11-23**] 03:29 AM
   Vancomycin - [**2150-11-23**] 05:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-11-22**] 08:00 PM
   Fentanyl - [**2150-11-23**] 12:00 AM
   Other medications:
   colace, chorhexidine, iron, insulin, epo, tylenol, prednisone,
   midadrine, lido patch, coumadin, oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-23**] 12:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (68 - 89) bpm
   BP: 101/52(65) {76/40(50) - 105/76(81)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  2,060 mL
                                                                    875 mL
   PO:
             TF:
                                                                    841 mL
                                                                    508 mL
   IVF:
                                                                    758 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    375 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,610 mL
                                                                    500 mL
   Respiratory support
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: BKA, Left: Absent edema; dusky, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Difficult to assess because patient cannot
   speak with trach, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   224 K/uL
   98 mg/dL
   3.9 mg/dL
   21 mEq/L
   4.8 mEq/L
   57 mg/dL
   105 mEq/L
   143 mEq/L
   31.1 %
   15.9 K/uL
        [image002.jpg]
                             [**2150-11-18**]  04:30 AM
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
   WBC
   10.7
   14.1
   18.4
   13.5
   12.3
   15.9
   Hct
   28.4
   31.5
   30.8
   28.8
   30.4
   31.1
   Plt
   221
   235
   243
   235
   193
   224
   Cr
   2.8
   2.0
   2.2
   3.0
   3.8
   3.0
   3.9
   Glucose
   169
   196
   250
   196
   110
   140
   118
   99
   98
   Other labs: PT / PTT / INR:17.8/38.6/1.6, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.5
   mg/dL
   Imaging: CXR: large heart. Patchy bilateral, interstitial and alveolar
   infiltrates
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   ANEMIA
   METABOLIC ACIDOSIS
   Hemodynamics stabilized; good mentation at marginal BP. Continue to
   remove fluid with hemodialysis. Metabolic acidosis stable.
   Hct stable. Not at transfusion threshold.
   Doing well with trach mask. O2 sats acceptable.
   Patient nearing state that if he is to have diverting colostomy to
   improve chances of healing sacral decubitus, it should be considered
   now. Will consult surgery. Continues on antibiotics.
   ICU Care
   Nutrition: tube feeds
   Nutren 2.0 (Full) - [**2150-11-23**] 06:51 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2150-11-24 06:50:00 Physician Resident Progress Note
Chief Complaint: decubitus ulcers/sepsis
   24 Hour Events:
   -Rec'd HD
   Clarification of Abx course:
   -Cont Dapto and [**Last Name (un) **] and Vanco until [**2150-11-26**]
   -Per [**Doctor First Name 458**]: will discuss with plastics, can likely do diverting
   colostomy
   -Given finalized sputum from [**11-20**], need to confirm abx regimen
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-21**] 12:30 PM
   Meropenem - [**2150-11-23**] 03:29 AM
   Vancomycin - [**2150-11-23**] 05:56 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-11-23**] 11:54 PM
   Other medications:
   Changes to medical and family history: No changes to family or medical
   history.
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes to review of systems.
   Flowsheet Data as of  [**2150-11-24**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 87 (73 - 96) bpm
   BP: 81/46(54) {74/31(40) - 105/66(74)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  2,109 mL
                                                                    348 mL
   PO:
             TF:
                                                                  1,034 mL
                                                                    282 mL
   IVF:
                                                                    935 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  3,475 mL
                                                                    150 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                 -1,366 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, no icterus
   Head, Ears, Nose, Throat: Normocephalic, AT, MMM
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Neurologic: Responds to voice, sensation; follows commands, tracks
   appropriately, mouths words.
   EXT: Left Heel eschar C/D/I. Sacral Decub
s: awaiting repositioning to
   re-evaluate.
   Labs / Radiology
   194 K/uL
   9.3 g/dL
   104 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   32 mg/dL
   103 mEq/L
   144 mEq/L
   30.6 %
   14.3 K/uL
        [image002.jpg]
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
                             [**2150-11-24**]  04:13 AM
   WBC
   14.1
   18.4
   13.5
   12.3
   15.9
   14.3
   Hct
   31.5
   30.8
   28.8
   30.4
   31.1
   30.6
   Plt
   235
   243
   235
   193
   224
   194
   Cr
   2.0
   2.2
   3.0
   3.8
   3.0
   3.9
   2.5
   Glucose
   196
   250
   196
   110
   140
   118
   99
   98
   104
   Other labs: PT / PTT / INR:24.7/38.7/2.4, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o man with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph), severe coxxygeal decubiti, ESRD, CAD, afib,
   DM2, and plasma cell dyscrasia who presented with hypotension likely
   [**1-17**] sepsis [**1-17**] sacral decub, now to rec. last in-house ultrafiltration
   session tomorrow with possible discharge to rehab.
   # Hypotension:  much improved with lows in mid-90's off pressors,
   though runs in the 80's after HD.  Per Renal team, pt should not be
   bolused and as long as pt is mentating we can feel comfortable with low
   BPs.
   Stress dosed prednisone weaned to 15mg yesterday
   - [**Last Name (un) 430**]/dapto/vanco for aceanetabaceter until [**11-26**] (ID will reasess.
   Plan to ask ID to come in AM.
   - Prednisone taper: decreased to 10mg yesterday, continue to
   decrease at rehab to 5mg for 3 days.
   - judicial use of fentanyl given pressure sensitivity
   # Infection: Still no actually positive blood cultures.
   Currently on  meropenem/vancomycin/daptomycin until [**2150-11-26**] with
   reassessment at that time.
   - [**Last Name (un) 430**]/dapto/vanco for aceanetabaceter until [**11-26**].
   - cont PO vanc for c.diff 2 weeks thereafter.
   # Pain Control: Have achieved moderate control via with:
   -Fent Patch 75mcg/hr TP q72 hours
   -Fent 50-100mg IV q 8 hours
   -Ibuprofen Suspension 400mg PO q6 hours
   -Oxycodone 5-10mg PO q4 hours PRN
   # Fluid Overload/ESRD: Plan for ultrafiltration again today per renal.
   Vanco to be drawn and dosed at that time +/- Epo/
   -Discuss post-discharge HD plans with renal prior to discharge.
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2 with adequate saturations. Previous culture with
   GPcocci in pairs, Gram negative rods, sparse ACINETOBACTER BAUMANNII.
   -following QD CXR's while in house
   - continue to follow cultures
   - continue with trach mask
   #Decub Ulcers: Concern that without diverting colostomy, site will
   continue to become contaminated by feces, leading to cyclic infection,
   inability to heal, ultimately repeat sepsis. Per general surgery, pt IS
   technically a candidate for the surgery, and while the anesthesia is
   not without risk, he very well may persevere through the procedure.
   -Discuss with team optimal time for [**Doctor First Name 458**]--> family discussion s/p team
   discussion
   -In the meantime, wet to dry dressing change for sacral decub ulcer [**Hospital1 **]
   with xeroform
   -has f/u for outpt scheduled with plastics;
   for left foot heel ulcer, con't silividine [**Hospital1 **] (then to stop silvidene
   when escar falls off)
   - f/u Wound recs
   - continue flexiseal/lactulose.
    # Cdiff:  history of c diff.  Samples cleared.  On PO vanco until off
   other antibiotics.
    # Atrial Fibrillation/bradycardia:
   -  heparin continuing, coumadin continuing, Last INR in range at 1.6
   -Will communicate with [**Doctor First Name 458**] re: time to hold if [**Doctor First Name 458**] proceeds.
    # Type II DM:
   - Cont ISS and Lantus
   - monitor
   #FEN: NPO for now in case diverting colostomy is to take place today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-24**] 04:03 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-24 10:56:00 Physician Attending Progress Note
Chief Complaint: Hypotension, renal failure, chronic renal failure,
   acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afebrile. Continues on antibiotics. Patient received hemodialysis
   yesterday. O2 sats good utilizing trach mask.  Blood pressure at
   baseline.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-11-21**] 12:30 PM
   Meropenem - [**2150-11-23**] 03:29 AM
   Vancomycin - [**2150-11-23**] 05:56 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-11-23**] 11:54 PM
   Other medications:
   colace, chlorhexidine, protonix, iron, fentanyl patch, epogen, tylenol,
   insulin, prednisone, midarine, lido patch, coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-24**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 105 (73 - 105) bpm
   BP: 92/43(53) {74/31(40) - 103/66(74)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                  2,109 mL
                                                                    548 mL
   PO:
             TF:
                                                                  1,034 mL
                                                                    442 mL
   IVF:
                                                                    935 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  3,475 mL
                                                                    150 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                 -1,366 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds, largely obscured by breath
   sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Coarse rales diffusely, Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: BKA, Left: Trace edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Difficult to assess with trach and
   communication issues, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   194 K/uL
   104 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   32 mg/dL
   103 mEq/L
   144 mEq/L
   30.6 %
   14.3 K/uL
        [image002.jpg]
                             [**2150-11-18**]  06:00 AM
                             [**2150-11-18**]  12:00 PM
                             [**2150-11-18**]  06:00 PM
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
                             [**2150-11-24**]  04:13 AM
   WBC
   14.1
   18.4
   13.5
   12.3
   15.9
   14.3
   Hct
   31.5
   30.8
   28.8
   30.4
   31.1
   30.6
   Plt
   235
   243
   235
   193
   224
   194
   Cr
   2.0
   2.2
   3.0
   3.8
   3.0
   3.9
   2.5
   Glucose
   196
   250
   196
   110
   140
   118
   99
   98
   104
   Other labs: PT / PTT / INR:24.7/38.7/2.4, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Imaging: CXR (supine): haziness right hemithorax, probably representing
   layering of right effusion
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   ANEMIA
   Patient to get dialysis today. BP remains in 80's to low 90's.
   Completing course of antibiotics. Patient  a bit reticent about
   undergoing colostomy but will have surgeons talk with him. I explained
   to patient that this is his best chance to try to clear the infection
   and get healing of the sacral decubitus.
   Chest exam with more rhonchi today. [**Month (only) 60**] lead more suctioning; check
   sputum culture.
   Hct stable; no evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2150-11-24**] 04:03 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2150-11-25 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/cd coumadin
   - nauseated and vomited coffee-ground emesis- hemeoccult +
   did not clear with 300cc lavage. 2 pt hct drop- Stable following repeat
   HCT. NGT placed and put to low intermittent suction
   started on [**Hospital1 **] PPI. The pt was made NPO; GI made aware.
   - Pain service consulted; appreciate recs:
   increase fent. patch to 100mcg
   Fent PCA
   -Tylenol 1g q6
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-25**] 04:00 AM
   Vancomycin - [**2150-11-25**] 05:49 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-11-24**] 08:06 PM
   Fentanyl - [**2150-11-25**] 12:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  None
   Flowsheet Data as of  [**2150-11-25**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 90 (89 - 110) bpm
   BP: 80/46(55) {71/33(41) - 100/61(68)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                    776 mL
                                                                    167 mL
   PO:
             TF:
                                                                    526 mL
   IVF:
                                                                    250 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                     75 mL
   Urine:
   NG:
                                                                    575 mL
                                                                     75 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                     51 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, No apparent
   distress, appears more relaxed than yesterday.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal). No M/T/R. PMI not palpable
   [**1-17**] habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: CTA BL
   (with very occasional wheezes).
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Skin:  There is a stable eschar over the left heel, unchanged from
   yesterday, C/D/I. The posterior sacral ducubitous ulcers were not
   assessed this AM PND assisted turn for evaluation and further treatment
   PRN. The lower extremities continue with stigmata of chronic venous
   stasis.
   Neurologic: Attentive, Follows simple commands, communicates by
   mouthing words/whispering.
   Labs / Radiology
   197 K/uL
   9.0 g/dL
   65 mg/dL
   3.5 mg/dL
   25 mEq/L
   4.3 mEq/L
   46 mg/dL
   104 mEq/L
   145 mEq/L
   28.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
                             [**2150-11-24**]  04:13 AM
                             [**2150-11-24**]  03:33 PM
                            [**2150-11-25**]  12:48 AM
                            [**2150-11-25**]  05:05 AM
   WBC
   14.1
   18.4
   13.5
   12.3
   15.9
   14.3
   17.5
   17.3
   15.4
   Hct
   31.5
   30.8
   28.8
   30.4
   31.1
   30.6
   28.9
   29.8
   28.0
   Plt
   235
   243
   235
   193
   [**Telephone/Fax (2) 6964**]08
   197
   Cr
   2.0
   2.2
   3.0
   3.8
   3.0
   3.9
   2.5
   3.5
   Glucose
   110
   140
   118
   99
   98
   104
   65
   Other labs: PT / PTT / INR:24.7/38.7/2.4, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o man with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph) presented with severe coxxygeal decubiti,
   ESRD, CAD, afib, DM2, and plasma cell dyscrasia. The  patient
   originally demonstrated hypotension likely [**1-17**] sepsis [**1-17**] sacral decub.
   Now appears at baseline systolic blood pressure in the context of
   aggressive HD (systolic 80
s) without further evidence of septic
   physiology.  However, overnight, demonstrated evidence of brief upper
   GI bleeding with black coffee ground emesis; no further episodes this
   AM.
   # GI Bleed: Likely gastric source given black, coffee-ground like
   texture. Per report, subsequent NG suction drained minimal further
   fluid, therefore was clamped this AM. Patient Hemodynamically stable.
   Etiology likely stress gastritis/ulcer in context of extended
   hospitalization.
   -f/u GI recs
   -Hold Ibuprofen
   -Hold coumadin/Heparin
   -Adequate access via PICC, peripherals
   -maintain type and cross
   -[**Hospital1 **] HCT
   # Hypotension:  much improved with lows in mid-90's off pressors,
   though runs in the 80's after HD.  Per Renal team, pt should not be
   bolused and as long as pt is mentating we can feel comfortable with low
   BPs.
   Stress dosed prednisone weaned to 10mg 3 days ago.
   - [**Last Name (un) 430**]/dapto/vanco for aceanetabaceter until [**11-26**] (ID will reasess.
   Plan to ask ID to come in AM.
   - Plan for reduction to 5mg Prednisone tomorrow
   # Infection: Still no actually positive blood cultures.
   Currently on  meropenem/vancomycin/daptomycin until [**2150-11-26**] with
   reassessment at that time.
   - [**Last Name (un) 430**]/dapto/vanco for aceanetabaceter until [**11-26**].
   - cont PO vanc for c.diff 2 weeks thereafter.
   # Pain Control: Achieving satisfactory control on new regimen:
   -Appreciate pain recs-- Increased Fent Patch from 75mcg/hr to 100 TP
   q72 hours
   -Fent 50-100mg IV q 8 hours
   -Ibuprofen Suspension 400mg PO q6 hours
HOLD given bleed
   -Oxycodone 5-10mg PO q4 hours PRN
   -Added Tylenol per pain service
   # Fluid Overload/ESRD: Plan for ultrafiltration again today per renal.
   Vanco to be drawn and dosed at that time +/- Epo/
   -Discuss post-discharge HD plans with renal prior to discharge.
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2 with adequate saturations. Previous culture with
   GPcocci in pairs, Gram negative rods, sparse ACINETOBACTER BAUMANNII.
   -following QD CXR's while in house
   - continue to follow cultures
   - continue with trach mask
   #Decub Ulcers: Concern that without diverting colostomy, site will
   continue to become contaminated by feces, leading to cyclic infection,
   inability to heal, ultimately repeat sepsis. Per general surgery, pt IS
   technically a candidate for the surgery, and while the anesthesia is
   not without risk, he very well may persevere through the
   procedure. Surgery prepared to do procedure next week.
   -Request [**Doctor First Name 458**] to discuss specifics of procedure with patient. Currently
   appears somewhat reluctant to consent, but unclear that he understands
   full consequences of deferring procedure.
    -In the meantime, wet to dry dressing change for sacral decub ulcer
   [**Hospital1 **] with xeroform
   -has f/u for outpt scheduled with plastics;
   for left foot heel ulcer, con't silividine [**Hospital1 **] (then to stop silvidene
   when escar falls off)
   - f/u Wound recs
   - continue flexiseal/lactulose.
    # Cdiff:  history of c diff. Inactive issue.  On PO vanco until off
   other antibiotics.
    # Atrial Fibrillation/bradycardia:
   -  Holding Heparin and Coumadin in context of GI bleed
   -Will communicate with [**Doctor First Name 458**] re: time to hold if [**Doctor First Name 458**] proceeds.
    # Type II DM:
   - Cont ISS and Lantus
   - monitor
   #FEN: NPO for now in case diverting colostomy is to take place today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-25 12:19:00 Physician Attending Progress Note
Chief Complaint: Hypotension, chronic respiratory failure, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with coffee ground emesis. Minimal hct drop.
   BP at baseline.
   Dialysis today.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: trach
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-11-25**] 04:00 AM
   Vancomycin - [**2150-11-25**] 05:49 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-11-25**] 12:00 AM
   Pantoprazole (Protonix) - [**2150-11-25**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-25**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 84 (83 - 110) bpm
   BP: 77/49(55) {71/33(41) - 103/61(68)} mmHg
   RR: 23 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                    776 mL
                                                                    231 mL
   PO:
             TF:
                                                                    526 mL
   IVF:
                                                                    250 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                     75 mL
   Urine:
   NG:
                                                                    575 mL
                                                                     75 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                     51 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Trach
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Tender: , No(t) Obese, PEG
   Extremities: Right: BKA, Left: Trace edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   197 K/uL
   65 mg/dL
   3.5 mg/dL
   25 mEq/L
   4.3 mEq/L
   46 mg/dL
   104 mEq/L
   145 mEq/L
   28.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2150-11-18**]  08:51 PM
                             [**2150-11-19**]  03:06 AM
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
                             [**2150-11-24**]  04:13 AM
                             [**2150-11-24**]  03:33 PM
                            [**2150-11-25**]  12:48 AM
                            [**2150-11-25**]  05:05 AM
   WBC
   14.1
   18.4
   13.5
   12.3
   15.9
   14.3
   17.5
   17.3
   15.4
   Hct
   31.5
   30.8
   28.8
   30.4
   31.1
   30.6
   28.9
   29.8
   28.0
   Plt
   235
   243
   235
   193
   [**Telephone/Fax (2) 6964**]08
   197
   Cr
   2.0
   2.2
   3.0
   3.8
   3.0
   3.9
   2.5
   3.5
   Glucose
   110
   140
   118
   99
   98
   104
   65
   Other labs: PT / PTT / INR:22.9/41.1/2.2, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   ACIDOSIS
   GI BLEED
   Patient with evidence of UGI bleed during the night. Minimal hct drop.
   No change in blood pressure. Probable gastritis. Anticoagulation held.
   GI service to evaluate.
   Ongoing acidosis from renal failure.
   Surgery to speak with patient and family about colostomy.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2150-11-26 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events: No clinical events overnight.
   - Surgery recs - pt currently declining diverting colostomy, but wishes
   to discuss with family and has not made final decision.
   - GI recs - no need for emergent endoscopy, continue PPI, hold nsaids
   - Hct - 29.8 > 28 > 30.9(no further emesis) > 30.4
   - Renal - Did not get Vanco with HD. Advised Vanco 750 mg IV x1 o/n and
   level in am.
   - Stopped ibuprofen
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-11-25**] 09:00 PM
   Meropenem - [**2150-11-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-11-25**] 08:12 AM
   Fentanyl - [**2150-11-26**] 04:45 AM
   Other medications:
   Changes to medical and family history: No changes to medical and family
   history.
   Review of systems is unchanged from admission except as noted below
   Review of systems: The review of systems has not changed since last
   examination and interview.
   Flowsheet Data as of  [**2150-11-26**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 77 (77 - 96) bpm
   BP: 94/49(60) {75/38(46) - 108/53(149)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                    350 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                    350 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    250 mL
   Urine:
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,225 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, No apparent
   distress, appears more relaxed than yesterday.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal). No M/T/R. PMI not palpable
   [**1-17**] habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: CTA BL
   (with very occasional wheezes).
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Skin:  There is a stable eschar over the left heel, unchanged from
   yesterday, C/D/I. The posterior sacral ducubitous ulcers were not
   assessed this AM PND assisted turn for evaluation and further treatment
   PRN. The lower extremities continue with stigmata of chronic venous
   stasis.
   Labs / Radiology
   227 K/uL
   9.6 g/dL
   112 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.8 mEq/L
   26 mg/dL
   106 mEq/L
   145 mEq/L
   30.4 %
   14.5 K/uL
        [image002.jpg]
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
                             [**2150-11-24**]  04:13 AM
                             [**2150-11-24**]  03:33 PM
                            [**2150-11-25**]  12:48 AM
                            [**2150-11-25**]  05:05 AM
                            [**2150-11-25**]  06:13 PM
                            [**2150-11-26**]  05:07 AM
   WBC
   18.4
   13.5
   12.3
   15.9
   14.3
   17.5
   17.3
   15.4
   14.5
   Hct
   30.8
   28.8
   30.4
   31.1
   30.6
   28.9
   29.8
   28.0
   30.9
   30.4
   Plt
   243
   235
   193
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 6981**]
   Cr
   3.0
   3.8
   3.0
   3.9
   2.5
   3.5
   2.6
   Glucose
   140
   118
   99
   98
   104
   65
   112
   Other labs: PT / PTT / INR:22.9/41.1/2.2, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   75 y.o man with chronic trach, s/p mult admissions for PNAs
   (Pseudomonas, Stenotrophomonas, Acinetobacter),  and bacteremia
   (Serretia, Coag neg Staph) presented with severe coxxygeal decubiti,
   ESRD, CAD, afib, DM2, and plasma cell dyscrasia. The  patient
   originally demonstrated hypotension likely [**1-17**] sepsis [**1-17**] sacral decub.
   Now appears at baseline systolic blood pressure in the context of
   aggressive HD (systolic 80
s) without further evidence of septic
   physiology.  No further episodes of coffee ground emesis.
   # GI Bleed: Only episode was on [**11-24**].08. Likely gastric source given
   black, coffee-ground like texture. Patient Hemodynamically stable.
   Etiology likely stress gastritis/ulcer in context of extended
   hospitalization.
   -f/u GI recs
   -Hold Ibuprofen
   -Will plan to hold Coumadin, restart ASA on Friday
   -Adequate access via PICC, peripherals
   -maintain type and cross
   -[**Hospital1 **] HCT
   # Hypotension:  much improved with lows in mid-90's off pressors,
   though runs in the 80's after HD.  Per Renal team, pt should not be
   bolused and as long as pt is mentating we can feel comfortable with low
   BPs.
   -Wean steroids to 5mg down from 10.
   - D/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 430**]/dapto/vanco for aceanetabaceter today.
   # Pain Control: Achieving satisfactory control on new regimen:
   -Appreciate pain recs-- Increased Fent Patch from 75mcg/hr to 100 TP
   q72 hours
   -Fent 50-100mg IV q 8 hours
   -Ibuprofen Suspension 400mg PO q6 hours
HOLD given bleed
   -Oxycodone 5-10mg PO q4 hours PRN
   -Added Tylenol per pain service
   # Fluid Overload/ESRD: Plan for ultrafiltration again today per renal.
   Vanco to be drawn and dosed at that time +/- Epo/
   -Discuss post-discharge HD plans with renal prior to discharge.
   # Chronic Respiratory Failure: Tolerating trach collar with
   supplemental O2 with adequate saturations. Previous culture with
   GPcocci in pairs, Gram negative rods, sparse ACINETOBACTER BAUMANNII.
   -following QOD CXR's while in house
   - continue to follow cultures
   - continue with trach mask
   #Decub Ulcers: Concern that without diverting colostomy, site will
   continue to become contaminated by feces, leading to cyclic infection,
   inability to heal, ultimately repeat sepsis. Per general surgery, pt IS
   technically a candidate for the surgery, and while the anesthesia is
   not without risk, he very well may persevere through the
   procedure. Surgery prepared to do procedure next week.
   -Patient waiting to discuss surgery with family.
    -In the meantime, wet to dry dressing change for sacral decub ulcer
   [**Hospital1 **] with xeroform
   -has f/u for outpt scheduled with plastics;
   for left foot heel ulcer, con't silividine [**Hospital1 **] (then to stop silvidene
   when escar falls off)
   - f/u Wound recs
   - continue flexiseal/lactulose.
    # Cdiff:  history of c diff. Inactive issue.  On PO vanco until off
   other antibiotics.
    # Atrial Fibrillation/bradycardia:
   -  Continue Heparin SQ. Hold Coumadin. Restart ASA once GI bleed
   absolutely stable.
   -Will communicate with [**Doctor First Name 458**] re: time to hold if [**Doctor First Name 458**] proceeds.
    # Type II DM:
   - Cont ISS and Lantus
   - monitor
   #FEN: NPO for now in case diverting colostomy is to take place today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-11-26 12:51:00 Physician Attending Progress Note
Chief Complaint: Chronic respiratory failure, chronic renal failure,
   hypotension, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient hemodynamically stable through the day yesterday. Oxygen
   saturation good on trach mask.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Trach
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-11-25**] 09:00 PM
   Meropenem - [**2150-11-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-11-26**] 04:45 AM
   Other medications:
   Colace, daptomycin, chlorhexidine, iron, fentanyl patch, tylenol,
   insulin, prednisone, midarin, protonix, lido patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-26**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 88 (77 - 96) bpm
   BP: 82/40(50) {75/38(46) - 108/53(64)} mmHg
   RR: 23 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108 kg (admission): 103 kg
   Height: 63 Inch
             Total In:
                                                                    350 mL
                                                                    226 mL
   PO:
             TF:
   IVF:
                                                                    350 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    250 mL
   Urine:
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,225 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Few
   scattered rhonchi anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: BKA, Left: Absent edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place - time not assessed, Movement:
   Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   227 K/uL
   112 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.8 mEq/L
   26 mg/dL
   106 mEq/L
   145 mEq/L
   30.4 %
   14.5 K/uL
        [image002.jpg]
                             [**2150-11-20**]  02:12 AM
                             [**2150-11-21**]  05:20 AM
                             [**2150-11-22**]  05:05 AM
                             [**2150-11-23**]  05:11 AM
                             [**2150-11-24**]  04:13 AM
                             [**2150-11-24**]  03:33 PM
                            [**2150-11-25**]  12:48 AM
                            [**2150-11-25**]  05:05 AM
                            [**2150-11-25**]  06:13 PM
                            [**2150-11-26**]  05:07 AM
   WBC
   18.4
   13.5
   12.3
   15.9
   14.3
   17.5
   17.3
   15.4
   14.5
   Hct
   30.8
   28.8
   30.4
   31.1
   30.6
   28.9
   29.8
   28.0
   30.9
   30.4
   Plt
   243
   235
   193
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 6981**]
   Cr
   3.0
   3.8
   3.0
   3.9
   2.5
   3.5
   2.6
   Glucose
   140
   118
   99
   98
   104
   65
   112
   Other labs: PT / PTT / INR:22.9/41.1/2.2, CK / CKMB /
   Troponin-T:18/3/0.49, ALT / AST:22/13, Alk Phos / T Bili:113/0.2,
   Amylase / Lipase:22/23, Differential-Neuts:75.8 %, Band:0.0 %,
   Lymph:19.3 %, Mono:3.3 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:96 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 DIABETES MELLITUS (DM), TYPE I
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   HYPOTENSION
   ANEMIA
   AFebrile, BP at baseline. Oxygenation good on trach mask. Completing
   course of antibiotics. Patient to discuss option of surgery with
   family.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2150-11-4**] 01:10 AM
   PICC Line - [**2150-11-17**] 11:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : ICU
   Total time spent: 25